2193-12-05 07:32:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTETITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-12-4**] 02:00 PM
 MULTI LUMEN - START [**2193-12-4**] 02:27 PM
 INDWELLING PORT (PORTACATH) - START [**2193-12-4**] 02:27 PM
 ARTERIAL LINE - START [**2193-12-4**] 10:05 PM
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)dystonia
   Last dose of Antibiotics:
   Vancomycin - [**2193-12-4**] 08:21 PM
   Cefipime - [**2193-12-5**] 12:20 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2193-12-4**] 03:29 PM
   Fentanyl - [**2193-12-4**] 03:29 PM\
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-5**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 93 (87 - 132) bpm
   BP: 101/60(74) {87/46(59) - 116/67(85)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  6,519 mL
                                                                    801 mL
   PO:
   TF:
   IVF:
                                                                  4,519 mL
                                                                    801 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,000 mL
   Urine:
                                                                  1,185 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,334 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.30/38/144/22/-6
   Ve: 6.2 L/min
   PaO2 / FiO2: 360
   Physical Examination
   GENERAL: intubated, sedated
   HEENT: alopecia. well healed craniotomy scar. No conjunctival pallor.
   No scleral icterus. PERRLA/EOMI. MMM. OP clear.
   Neck: LIJ in place. No LAD, No thyromegaly.
   CARDIAC: tachycardic regular rhythm. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].
   CHEST: Port in place. Bronchial breath sounds at LUL with coarsened
   breath sounds throughout.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   7.8 g/dL
   100 mg/dL
   0.1 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   110 mEq/L
   141 mEq/L
   25.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2193-12-4**]  12:38 PM
                            [**2193-12-5**]  12:33 AM
                            [**2193-12-5**]  05:37 AM
   WBC
   8.2
   Hct
   25.2
   Plt
   280
   Cr
   0.1
   TCO2
   27
   19
   Glucose
   100
   Other labs: Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6 %, Eos:0.1
   %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   37F with widely advanced metastatic colon CA, now presenting with
   fever, hypoxia, repsiratory distress, and probable sepsis.
   .
   #. Hypoxia/respiratory failure - DDx includes infectious process,
   although unlikely flu given recent negative DFA. Has a history of RML
   bronchial collpase due to tumor progression, and LUL threatening on
   recent CT, so this may be the etiology as well +/- post obstrcutive
   PNA. finally, given malignancy, PE is also on the differential.
   -- continue broad spectrum antibiosis with vanc/cefepime. Will not add
   levo as she worsened with this as an outpatient
   -- no flu treatment given recent negative DFA
   -- sputum for G+S and culture, fungal culture and PCP given steroid use
   -- per IP, no possibility of stenting via bronch given subsegmental
   nature of any collapse
   -- continue current vent settings for now
   -- defer CT-A for now as would be unable to anticoagulate given ongoing
   brain mets and recent brain surgery/XRT
   .
   #. Hypotension - sepsis is most liekly etiology. In ED, never required
   pressors, with a normal lactate. Nonetheless, was febrile and
   tachypneic with suspected pulm source, making sepsis most likely. PE or
   pericardial effusion could explain hypoTN, but no effusion seen on CT 1
   week ago, and would be unable to treat PE given brain mets/recent
   surgery.
   -- IVF boluses to CVP 8-12
   -- prn pressors for MAP >55
   -- broad spectrum antibiotics as above
   -- f/u blood and urine cultures, send sputum as above
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   -- check pulsus
   .
   #. Stage 4 metastatic colon CA - s/p
   -- will contact outpatient oncology team, no inpatient tx for now
   -- continue keppra
   -- onc SW consult
   .
   # FEN:
   -- begin TFs via OGT after nutrition consult
   .
   PPX:
   --DVT ppx with pneumoboots
   --Bowel regimen colace/senna
   --Pain management with IV sedation (fent/midaz)
   .
   # CODE STATUS:
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   ICU Care
   Nutrition: NPO on vent, awaiting nutrition c/s for TFs
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Disposition: [**Hospital Unit Name 1**]
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-12-4**] 02:00 PM
 MULTI LUMEN - START [**2193-12-4**] 02:27 PM
 INDWELLING PORT (PORTACATH) - START [**2193-12-4**] 02:27 PM
 ARTERIAL LINE - START [**2193-12-4**] 10:05 PM
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Vancomycin - [**2193-12-4**] 08:21 PM
   Cefipime - [**2193-12-5**] 12:20 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2193-12-4**] 03:29 PM
   Fentanyl - [**2193-12-4**] 03:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 93 (87 - 132) bpm
   BP: 101/60(74) {87/46(59) - 116/67(85)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  6,519 mL
                                                                    807 mL
   PO:
   TF:
   IVF:
                                                                  4,519 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,000 mL
   Urine:
                                                                  1,185 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,334 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.30/38/144/22/-6
   Ve: 6.2 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   7.8 g/dL
   100 mg/dL
   0.1 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   110 mEq/L
   141 mEq/L
   25.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2193-12-4**]  12:38 PM
                            [**2193-12-5**]  12:33 AM
                            [**2193-12-5**]  05:37 AM
   WBC
   8.2
   Hct
   25.2
   Plt
   280
   Cr
   0.1
   TCO2
   27
   19
   Glucose
   100
   Other labs: Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6 %, Eos:0.1
   %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-12-05 08:53:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 y.o. woman with metastatic colon Ca (lung, brain) refractory to
   therapy presents with productive cough, acute on chronic respiratory
   failure.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-12-4**] 02:00 PM
 MULTI LUMEN - START [**2193-12-4**] 02:27 PM
 INDWELLING PORT (PORTACATH) - START [**2193-12-4**] 02:27 PM
 ARTERIAL LINE - START [**2193-12-4**] 10:05 PM
   Continues on pressors
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Cefipime - [**2193-12-5**] 12:20 AM
   Vancomycin - [**2193-12-5**] 07:39 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-12-4**] 03:29 PM
   Fentanyl - [**2193-12-4**] 03:29 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2193-12-5**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.3
   HR: 100 (87 - 132) bpm
   BP: 114/67(83) {87/46(59) - 116/67(85)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 2 (2 - 12)mmHg
   Total In:
                                                                  6,519 mL
                                                                  1,044 mL
   PO:
   TF:
   IVF:
                                                                  4,519 mL
                                                                  1,044 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,220 mL
   Urine:
                                                                  1,185 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,334 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.30/38/144/22/-6
   Ve: 5.6 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   280 K/uL
   100 mg/dL
   0.1 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   110 mEq/L
   141 mEq/L
   25.2 %
   8.2 K/uL
        [image002.jpg]
                            [**2193-12-4**]  12:38 PM
                            [**2193-12-5**]  12:33 AM
                            [**2193-12-5**]  05:37 AM
   WBC
   8.2
   Hct
   25.2
   Plt
   280
   Cr
   0.1
   TCO2
   27
   19
   Glucose
   100
   Other labs: Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6 %, Eos:0.1
   %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Hypovolemic or sepsis.  Aggressively volume
   resusitated overnight with increased urine output.  Weaning pressors.
   She has been on steroids so she is on stress dose steroids.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  Brain and
   lung mets, refractory to prior courses of chemoRx.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) ON CHRONIC:  Colon Ca with
   mets to the lung, now with superimposed pneumonia, can't rule out a
   postobstructive component.  Secretions now smaller in amount from ETT,
   rusty in color.  No frank hemoptysis.  On vanco/cefipime.  Will add
   atypical coverage wih levoquin and flagyl for anaerobic coverage.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-12-06 07:17:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Was desatting in the afternoon; CXR was not significantly different.
   Appeared to be fighting the vent.  Vent settings changed with PEEP
   5-->8, increased RR from 16 to 18, FiO2 from 40 to 50%.  Since that
   time, satting 95-100%.
   -Did not give any further IVF boluses due to concern about pulm edema
   as the cause of earlier desat.
   -Pt. became more hypotensive, received 1 500cc NS bolus overnight, Levo
   still at .5
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-5**] 04:00 PM
   Vancomycin - [**2193-12-5**] 08:14 PM
   Cefipime - [**2193-12-5**] 10:01 PM
   Metronidazole - [**2193-12-6**] 04:41 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-6**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 101 (99 - 122) bpm
   BP: 108/68(84) {86/56(68) - 117/71(90)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  3,326 mL
                                                                    979 mL
   PO:
   TF:
                                                                     80 mL
                                                                     72 mL
   IVF:
                                                                  3,246 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    740 mL
   Urine:
                                                                  2,960 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.41/43/107/27/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 214
   Physical Examination
   GENERAL: intubated, sedated , not responsive to voice commands
   HEENT: alopecia. well healed craniotomy scar. No conjunctival pallor.
   No scleral icterus. PERRLA/EOMI. MMM. OP clear.
   Neck: LIJ in place. No LAD, No thyromegaly.
   CARDIAC: tachycardic regular rhythm. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].
   CHEST: Port in place. Bronchial breath sounds at LUL with coarsened
   breath sounds throughout.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   7.4 g/dL
   131 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   4 mg/dL
   106 mEq/L
   142 mEq/L
   23.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2193-12-4**]  12:38 PM
                            [**2193-12-5**]  12:33 AM
                            [**2193-12-5**]  05:37 AM
                            [**2193-12-5**]  01:12 PM
                            [**2193-12-5**]  02:39 PM
                            [**2193-12-5**]  03:09 PM
                            [**2193-12-5**]  05:08 PM
                            [**2193-12-6**]  05:05 AM
   WBC
   8.2
   8.8
   Hct
   25.2
   25.8
   23.7
   Plt
   280
   235
   Cr
   0.1
   0.2
   TCO2
   27
   19
   28
   29
   28
   Glucose
   100
   131
   Other labs: Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6 %, Eos:0.1
   %, Albumin:2.2 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   37F with widely advanced metastatic colon CA, now presenting with
   fever, hypoxia, repsiratory distress, and probable sepsis.
   .
   #. Hypoxia/respiratory failure - DDx includes infectious process,
   although unlikely flu given recent negative DFA. Has a history of RML
   bronchial collpase due to tumor progression, and LUL threatening on
   recent CT, so this may be the etiology as well +/- post obstrcutive
   PNA. finally, given malignancy, PE is also on the differential.
   -- continue broad spectrum antibiosis with vanc/cefepime. Will add
   levofloxacin for atypical coverage as well as flagyl for anaerobic
   coverage given possibility of post-obstructive PNA
   -- no flu treatment given recent negative DFA
   -- sputum for G+S and culture, fungal culture and PCP given steroid use
   -- per IP, no possibility of stenting via bronch given subsegmental
   nature of any collapse
   -- continue current vent settings for now
   -- defer CT-A for now as would be unable to anticoagulate given ongoing
   brain mets and recent brain surgery/XRT
   .
   #. Hypotension - sepsis is most liekly etiology. In ED, never required
   pressors, with a normal lactate. Nonetheless, was febrile and
   tachypneic with suspected pulm source, making sepsis most likely. PE or
   pericardial effusion could explain hypoTN, but no effusion seen on CT 1
   week ago, and would be unable to treat PE given brain mets/recent
   surgery.
   -- IVF boluses to CVP 8-12
   -- levophed titrate to MAP > 65; currently on 0.03, ct wean
   -- broad spectrum antibiotics as above
   -- f/u blood and urine cultures, send sputum as above
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   -- check pulsus
   -- check PM HCT
   .
   #. Stage 4 metastatic colon CA - s/p
   -- will contact outpatient oncology team, no inpatient tx for now
   -- continue keppra
   -- onc SW consult
   .
   # FEN:
   -- begin TFs via OGT after nutrition consult
   .  .
   # CODE STATUS:
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   ICU Care
   Nutrition: NPO on vent, awaiting nutrition c/s for TFs
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Disposition: [**Hospital Unit Name 1**]

2193-12-06 10:27:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Desturations yesterday with frothy pink sputum noted per ETT, concerned
   for volume overload
   Increased Fi02 50%, increased sedation given she intermittently was
   biting the tube
   Still on levophed
   Minimal thin secretions per the ETT
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-5**] 04:00 PM
   Cefipime - [**2193-12-5**] 10:01 PM
   Metronidazole - [**2193-12-6**] 04:41 AM
   Vancomycin - [**2193-12-6**] 08:14 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: No(t) NPO, Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2193-12-6**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 96 (96 - 122) bpm
   BP: 96/57(73) {86/56(68) - 117/71(90)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 6 (5 - 9)mmHg
   Total In:
                                                                  3,326 mL
                                                                  1,419 mL
   PO:
   TF:
                                                                     80 mL
                                                                    102 mL
   IVF:
                                                                  3,246 mL
                                                                  1,227 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    860 mL
   Urine:
                                                                  2,960 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    366 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/43/107/27/1
   Ve: 6.1 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, appears comfortable
   Labs / Radiology
   7.4 g/dL
   235 K/uL
   131 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   4 mg/dL
   106 mEq/L
   142 mEq/L
   23.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2193-12-4**]  12:38 PM
                            [**2193-12-5**]  12:33 AM
                            [**2193-12-5**]  05:37 AM
                            [**2193-12-5**]  01:12 PM
                            [**2193-12-5**]  02:39 PM
                            [**2193-12-5**]  03:09 PM
                            [**2193-12-5**]  05:08 PM
                            [**2193-12-6**]  05:05 AM
   WBC
   8.2
   8.8
   Hct
   25.2
   25.8
   23.7
   Plt
   280
   235
   Cr
   0.1
   0.2
   TCO2
   27
   19
   28
   29
   28
   Glucose
   100
   131
   Other labs: Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6 %, Eos:0.1
   %, Albumin:2.2 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Secondary to hypovolemia and sepsis.
   Continues on pressors.  Try to wean today. No new micro data.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Pneumonia superimposed on
   underlying pulmonary compromise given lung mets (colon Ca). On
   vanco/cefipime/levo/flagyl.  Secretions improved, more suggestive of
   volume overload when she worsened yesterday.  Have been unable to
   diurese given hypotension and pressor requirements.  Consider echo.
 ANEMIA:  Hct slightly decreased with volume resusitation.  Will
   follow hcts, PPI.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-5**] 04:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-12-07 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mets in lungs, possible pna
 leading to resp failure
   Pressors stopped yesterday though needed to be restarted
   Problems with bradycardia overnight
   24 Hour Events:
 EKG - At [**2193-12-6**] 09:30 PM
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-6**] 04:35 PM
   Cefipime - [**2193-12-7**] 12:00 AM
   Metronidazole - [**2193-12-7**] 06:00 AM
   Vancomycin - [**2193-12-7**] 07:24 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-7**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 66 (55 - 100) bpm
   BP: 123/73(94) {78/48(58) - 154/89(112)} mmHg
   RR: 18 (17 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 12 (0 - 16)mmHg
   Total In:
                                                                  3,274 mL
                                                                    945 mL
   PO:
   TF:
                                                                    453 mL
                                                                    223 mL
   IVF:
                                                                  2,381 mL
                                                                    722 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,180 mL
                                                                    470 mL
   Urine:
                                                                  2,180 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,094 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/49/83
   Ve: 5.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Intubated, sedated, opens eyes briefly, not following commands
   PERRL
   Neck supple
   Hrt rrr
   Lungs scattered crackles, bronchial lul
   Abd benign
   Extrem no edema
   Labs / Radiology
   8.0 g/dL
   306 K/uL
   186 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.9 mEq/L
   7 mg/dL
   108 mEq/L
   146 mEq/L
   25.5 %
   10.3 K/uL
        [image002.jpg]
                            [**2193-12-5**]  05:08 PM
                            [**2193-12-6**]  05:05 AM
                            [**2193-12-6**]  11:45 AM
                            [**2193-12-6**]  02:05 PM
                            [**2193-12-6**]  04:20 PM
                            [**2193-12-6**]  10:02 PM
                            [**2193-12-6**]  10:14 PM
                            [**2193-12-6**]  11:05 PM
                            [**2193-12-7**]  03:26 AM
                            [**2193-12-7**]  03:50 AM
   WBC
   8.8
   10.3
   Hct
   23.7
   24.5
   24.8
   25.5
   Plt
   235
   306
   Cr
   0.2
   0.1
   0.2
   0.2
   TropT
   <0.01
   TCO2
   28
   34
   34
   35
   33
   34
   Glucose
   131
   138
   207
   186
   Other labs: PT / PTT / INR:15.4/32.1/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   CXR stable diffuse infiltrates
   Assessment and Plan
 HYPOTENSION
 wean pressor as tolerated, keep even
   Bradycardia
 improved, cont to follow, consider head CT to w/u
   hemorrhage if continues
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE due to lung mets and pneumonia
 continue abx,
   transition to PSV, consider SBT in AM,
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT:   boots
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition :  icu
   Total time spent:   38

2193-12-07 07:56:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-12-6**] 09:30 PM
   -decreased FIO2 to 40%
   -gave albumin 25 gm IV x 1
   -changed vancomycin dosing from 1000 mg Q12H to 1250 mg Q12H
   -weaned levophed -> gave 500 cc NS bolus to support BP due to SBP of
   high 70s
   -Restarted levophed in setting of sbp in 70s after Lasix bolus. Shortly
   thereafter, patient had brady to 40s. Put on pacer pads and drew up
   atropine but patient had spontaneous improvement in heart rate. Ordered
   a stat CXR, patient was lightly sedated and fighting the vent ->
   desatted to 60s for a few seconds -> increased sedation with
   normalization of O2 saturation and other vital signs
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-6**] 04:35 PM
   Cefipime - [**2193-12-7**] 12:00 AM
   Metronidazole - [**2193-12-7**] 06:00 AM
   Vancomycin - [**2193-12-7**] 07:24 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-7**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 66 (55 - 100) bpm
   BP: 123/73(94) {78/48(58) - 154/89(112)} mmHg
   RR: 18 (17 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 12 (0 - 16)mmHg
   Total In:
                                                                  3,274 mL
                                                                  1,017 mL
   PO:
   TF:
                                                                    453 mL
                                                                    223 mL
   IVF:
                                                                  2,381 mL
                                                                    724 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  2,180 mL
                                                                    470 mL
   Urine:
                                                                  2,180 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,094 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/49/82.[**Numeric Identifier 143**]/29/7
   Ve: 5.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   GENERAL: intubated, sedated, not responsive to voice commands
   Neck: LIJ in place.
   CARDIAC: regular rhythm. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Trace LE edema, symmetric, 2+ dorsalis pedis/ posterior
   tibial pulses.
   Labs / Radiology
   306 K/uL
   8.0 g/dL
   186 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.9 mEq/L
   7 mg/dL
   108 mEq/L
   146 mEq/L
   25.5 %
   10.3 K/uL
        [image002.jpg]
                            [**2193-12-5**]  05:08 PM
                            [**2193-12-6**]  05:05 AM
                            [**2193-12-6**]  11:45 AM
                            [**2193-12-6**]  02:05 PM
                            [**2193-12-6**]  04:20 PM
                            [**2193-12-6**]  10:02 PM
                            [**2193-12-6**]  10:14 PM
                            [**2193-12-6**]  11:05 PM
                            [**2193-12-7**]  03:26 AM
                            [**2193-12-7**]  03:50 AM
   WBC
   8.8
   10.3
   Hct
   23.7
   24.5
   24.8
   25.5
   Plt
   235
   306
   Cr
   0.2
   0.1
   0.2
   0.2
   TropT
   <0.01
   TCO2
   28
   34
   34
   35
   33
   34
   Glucose
   131
   138
   207
   186
   Other labs: PT / PTT / INR:15.4/32.1/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, now presenting with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure - Has a history of RML bronchial collpase due to
   tumor progression, and LUL threatening on recent CT, so this may be the
   etiology as well +/- post obstrcutive PNA.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending cultures
   -- per IP, no possibility of stenting via bronch given subsegmental
   nature of any collapse
   -- Spontaneous breathing trial
   .
   #. Hypotension - Sepsis is most likely etiology. Pericardial effusion
   could explain hypoTN, but no effusion seen on CT one week ago. PE in
   differential but would be difficult to treat given brain mets/recent
   surgery.
   -- IVF boluses to CVP 8-12
   -- levophed titrate to MAP > 60
   -- f/u pending cultures
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   -- consider repeat head imaging
   ,
   # [**Name (NI) 11675**] Etiology unclear. Does not appear to be related to
   cardiac ischemia, electrolyte imbalance, or med effect.
   -- monitor on telemetry
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  start insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: [**Hospital Unit Name 1**]

2193-12-08 07:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint: respiratory distress d/t colon ca metastatic to lungs
   & post obstructive pna
   24 Hour Events:
 SPUTUM CULTURE - At [**2193-12-7**] 08:30 PM
   - Pt not sedated enough, agitated, getting tachy to 140s, hypertensive
   to SBP 150s, around 1030pm SaO2 88% on FiO2 50%
   got ABG at 1041pm which showed worsened oxygenation
   7.40/ 53/ 58/ 34
   - stat CXR done to r/o PTX (pt had breath sounds everywhere) or acute
   change in ETT positioning, ETT was ~3cm above carina, no acute changes
   on xray
   - increased sedation, sats improved
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)--dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-6**] 04:35 PM
   Cefipime - [**2193-12-8**] 01:02 AM
   Metronidazole - [**2193-12-8**] 06:01 AM
   Vancomycin - [**2193-12-8**] 07:13 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-8**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 93 (70 - 147) bpm
   BP: 103/62(76) {93/55(69) - 123/75(92)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 12 (5 - 14)mmHg
   Total In:
                                                                  3,133 mL
                                                                    946 mL
   PO:
   TF:
                                                                    519 mL
                                                                    269 mL
   IVF:
                                                                  2,465 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    245 mL
   Urine:
                                                                  1,110 mL
                                                                    245 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                    701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.38/57/72/33/6
   Ve: 5.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   GENERAL: intubated, sedated, not responsive to voice commands
   Neck: LIJ in place.
   CARDIAC: regular rhythm. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Trace LE edema, symmetric, 2+ dorsalis pedis/ posterior
   tibial pulses
   Labs / Radiology
   239 K/uL
   7.1 g/dL
   136 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.3 K/uL
        [image002.jpg]
                            [**2193-12-6**]  10:14 PM
                            [**2193-12-6**]  11:05 PM
                            [**2193-12-7**]  03:26 AM
                            [**2193-12-7**]  03:50 AM
                            [**2193-12-7**]  11:14 AM
                            [**2193-12-7**]  12:10 PM
                            [**2193-12-7**]  07:17 PM
                            [**2193-12-7**]  10:41 PM
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
   WBC
   10.3
   8.3
   Hct
   25.5
   22.5
   Plt
   306
   239
   Cr
   0.2
   0.2
   TCO2
   35
   33
   34
   35
   36
   35
   34
   35
   Glucose
   186
   136
   Other labs: PT / PTT / INR:15.2/31.3/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, now presenting with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure - Has a history of RML bronchial collpase due to
   tumor progression, and LUL threatening on recent CT, so this may be the
   etiology as well +/- post obstrcutive PNA.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending cultures
   -- per IP, no possibility of stenting via bronch given subsegmental
   nature of any collapse
   -- Spontaneous breathing trial
   .
   #. Hypotension - Sepsis is most likely etiology. Pericardial effusion
   could explain hypoTN, but no effusion seen on CT one week ago. PE in
   differential but would be difficult to treat given brain mets/recent
   surgery.
   -- IVF boluses to CVP 8-12
   -- levophed titrate to MAP > 60
   -- f/u pending cultures
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   -- consider repeat head imaging
   ,
   # [**Name (NI) 11675**] Etiology unclear. Does not appear to be related to
   cardiac ischemia, electrolyte imbalance, or med effect.
   -- monitor on telemetry
   ICU Care
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  start insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: [**Hospital Unit Name 1**]

2193-12-08 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2193-12-7**] 08:30 PM
   O2 needs increasing
   Pressors weaned
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-6**] 04:35 PM
   Cefipime - [**2193-12-8**] 01:02 AM
   Metronidazole - [**2193-12-8**] 06:01 AM
   Vancomycin - [**2193-12-8**] 07:13 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-8**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 93 (71 - 147) bpm
   BP: 103/62(76) {93/55(69) - 123/75(90)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 12 (5 - 14)mmHg
   Total In:
                                                                  3,133 mL
                                                                    951 mL
   PO:
   TF:
                                                                    519 mL
                                                                    269 mL
   IVF:
                                                                  2,465 mL
                                                                    682 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    280 mL
   Urine:
                                                                  1,110 mL
                                                                    280 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                    671 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG:    7.37/58/89
   Ve: 5.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Intubated, sedated, opens eyes briefly, not following commands
   PERRL
   Neck supple
   Hrt rrr
   Lungs scattered crackles, bronchial lul
   Abd benign, hypoactive bowel sounds
   Extrem no edema
   Labs / Radiology
   7.1 g/dL
   239 K/uL
   136 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   22.5 %
   8.3 K/uL
        [image002.jpg]
                            [**2193-12-6**]  10:14 PM
                            [**2193-12-6**]  11:05 PM
                            [**2193-12-7**]  03:26 AM
                            [**2193-12-7**]  03:50 AM
                            [**2193-12-7**]  11:14 AM
                            [**2193-12-7**]  12:10 PM
                            [**2193-12-7**]  07:17 PM
                            [**2193-12-7**]  10:41 PM
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
   WBC
   10.3
   8.3
   Hct
   25.5
   22.5
   Plt
   306
   239
   Cr
   0.2
   0.2
   TCO2
   35
   33
   34
   35
   36
   35
   34
   35
   Glucose
   186
   136
   Other labs: PT / PTT / INR:15.2/31.3/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   CXR stable bilateral infiltrates, ETT + CVL OK
   Assessment and Plan
   Bradycardia
 improved, cont to follow, consider head CT to w/u
   hemorrhage if continues
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE due to lung mets and pneumonia
 continue abx,
   moving in wrong direction on vent
 need to address goals of care, will
   discuss with family
   ICU Care
   Nutrition: tf
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition :  icu
   Total time spent: 35

2193-12-09 07:23:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Large residuals 200-300 cc, holding tube feeds for now
   -Plan for family meeting tomorrow along with Dr. [**Last Name (STitle) 11731**] and Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5095**] (fellow) from OMED and SW. Need to page them in AM for
   time.
   -Received IVF bolus for low UOP (1000ml LR)
   -During pre-rounding, found patient to be uncomfortable, dyssynchronous
   with vent.  Called respiratory, who changed ventillator mode to
   pressure support.  On pressure support, ABG was 7.38/61/77.  Changed
   patient back to AC ventillation.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-8**] 03:31 PM
   Vancomycin - [**2193-12-8**] 07:27 PM
   Cefipime - [**2193-12-9**] 12:00 AM
   Metronidazole - [**2193-12-9**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-12-9**] 06:20 AM
   Fentanyl - [**2193-12-9**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-9**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 105 (81 - 111) bpm
   BP: 142/87(109) {88/51(63) - 145/87(109)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 9 (9 - 14)mmHg
   Total In:
                                                                  3,173 mL
                                                                    450 mL
   PO:
   TF:
                                                                    471 mL
                                                                    147 mL
   IVF:
                                                                  2,642 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                    671 mL
                                                                    290 mL
   Urine:
                                                                    671 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,502 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: 7.37/58/89.[**Numeric Identifier 126**]/31/5
   Ve: 4.7 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GENERAL: intubated, sedated, dyssynchronous with ventillator
   Neck: LIJ in place.
   CARDIAC: regular rhythm. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Edema of all 4 extremities, 2+ dorsalis pedis pulses
   Labs / Radiology
   199 K/uL
   6.9 g/dL
   128 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   141 mEq/L
   22.5 %
   6.9 K/uL
        [image002.jpg]
                            [**2193-12-7**]  03:26 AM
                            [**2193-12-7**]  03:50 AM
                            [**2193-12-7**]  11:14 AM
                            [**2193-12-7**]  12:10 PM
                            [**2193-12-7**]  07:17 PM
                            [**2193-12-7**]  10:41 PM
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
                            [**2193-12-8**]  08:56 AM
                            [**2193-12-9**]  03:24 AM
   WBC
   10.3
   8.3
   6.9
   Hct
   25.5
   22.5
   22.5
   Plt
   [**Telephone/Fax (3) 11732**]
   Cr
   0.2
   0.2
   0.2
   TCO2
   34
   35
   36
   35
   34
   35
   35
   Glucose
   186
   136
   128
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, now presenting with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure
 Likely multifactorial, [**2-18**] pneumonia, plus RML
   bronchial collpase due to tumor progression, and now also likely LUL
   collapse.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending cultures
   -- increase sedation to improve patient comfort/tolerance of
   ventillator
   -- family meeting to discuss goals of care
   .
   #. Hypotension
 Now off pressors, with SBP in 80s-90s.  Sepsis most
   likely etiology. Pericardial effusion could explain hypotension, but no
   effusion seen on CT one week ago. PE in differential but would be
   difficult to treat given brain mets/recent surgery.
   -- IVF boluses to CVP 8-12
   -- f/u pending cultures
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: [**Hospital Unit Name 1**]

2193-12-09 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Family meeting planned for today
   -IVF bolus needed for low urine output
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-8**] 03:31 PM
   Cefipime - [**2193-12-9**] 12:00 AM
   Metronidazole - [**2193-12-9**] 06:00 AM
   Vancomycin - [**2193-12-9**] 08:01 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-12-9**] 06:20 AM
   Fentanyl - [**2193-12-9**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, Transient tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2193-12-9**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 86 (81 - 105) bpm
   BP: 100/57(72) {88/51(63) - 145/87(109)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.2 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 11 (9 - 14)mmHg
   Total In:
                                                                  3,173 mL
                                                                    885 mL
   PO:
   TF:
                                                                    471 mL
                                                                    226 mL
   IVF:
                                                                  2,642 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                    671 mL
                                                                    450 mL
   Urine:
                                                                    671 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,502 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 364 (364 - 364) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.38/61/77/31/7
   Ve: 6.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, RLE externally rotated
   Labs / Radiology
   6.9 g/dL
   199 K/uL
   128 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   141 mEq/L
   22.5 %
   6.9 K/uL
        [image002.jpg]
                            [**2193-12-7**]  03:50 AM
                            [**2193-12-7**]  11:14 AM
                            [**2193-12-7**]  12:10 PM
                            [**2193-12-7**]  07:17 PM
                            [**2193-12-7**]  10:41 PM
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
                            [**2193-12-8**]  08:56 AM
                            [**2193-12-9**]  03:24 AM
                            [**2193-12-9**]  09:20 AM
   WBC
   8.3
   6.9
   Hct
   22.5
   22.5
   Plt
   239
   199
   Cr
   0.2
   0.2
   TCO2
   34
   35
   36
   35
   34
   35
   35
   37
   Glucose
   136
   128
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-Worsening of LUL opacity with now what appears to be
   further collapse.
   Assessment and Plan
   37 yo female with history of colon cancer--widely metastatic to lung
   and brain, and now presenting with respiratory failure with significant
   pneumonia and pulmonary edema accompanied by sepsis leading to
   prolonged intubation.  She now has persistent and significant O2 and
   PEEP requirement with inability to establish a wean in levels of
   support across time.  The primary barrier  at this point is related to
   the patients metastatic colon cancer and likely related post
   obstructive pneumonia which has led to persistent and signfiicant
   hypoxemia and substantial requirement for continued ventilatory
   support.
   1)Sepsis-
   -Vanco/Cefepime/Levo/Flagyl
   -Continue with Hydrocortisone support to aid with sepsis support but
   has resolved with pressors discontinued and infection improved in
   regards to systemic insult which is likely from pulmonary primary
   2)Cancer--Colon Cancer with Pulmonary Metastases
has gone through max
   dosing and evaluation for XRT at this time.
   -Keppra
   -Will have continued issues with obstruction and pneumonia fully
   treated
   -Will have to discuss move to CMO status following intervention
   3)Respiratory Failure-
   -Will continue with A/C support
   -Will re-trial PSV as possible but will have continued issue with
   worsening LUL collapse.
   HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-9**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family meeting today
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2193-12-10 06:56:00 Physician Resident Progress Note
TITLE:
   TITLE:
   Chief Complaint:
   24 Hour Events:
   -Held family meeting; family expressed desire to continue aggressive
   efforts for now. Will continue discussion
   -Decreased PEEP from 15 to 12; ABG subsequently 7.45/53/130
   -Decreased FiO2 from 50% to 40%
   -The patient gets hypertensive, tachycardic, dyssynchronous with the
   vent and has desat episodes to 80s with movement.
   -The patient cotinues to have large residuals >60 cc on 10cc/hr tube
   feeds.  She has not had a bowel movement in several days.
   -This AM, the patient is opening her eyes spontaneously but not
   tracking.
   -This AM, PEEP decreased from 12 to 10.  Sats went lower.  ABG pending
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-9**] 05:00 PM
   Vancomycin - [**2193-12-9**] 09:19 PM
   Cefipime - [**2193-12-10**] 12:00 AM
   Metronidazole - [**2193-12-10**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Fentanyl - [**2193-12-9**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-10**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 72 (71 - 104) bpm
   BP: 110/69(85) {80/54(63) - 149/88(111)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 13 (11 - 13)mmHg
   Total In:
                                                                  1,870 mL
                                                                    417 mL
   PO:
   TF:
                                                                    370 mL
                                                                     65 mL
   IVF:
                                                                  1,440 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    435 mL
   Urine:
                                                                    900 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    970 mL
                                                                    -18 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 364 (364 - 364) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.45/50/101/32/8
   Ve: 6.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   Neck: LIJ in place.
   CARDIAC: regular rhythm. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Edema of all 4 extremities, 2+ dorsalis pedis pulses
   Labs / Radiology
   256 K/uL
   8.0 g/dL
   112 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   142 mEq/L
   25.1 %
   7.8 K/uL
        [image002.jpg]
                            [**2193-12-7**]  10:41 PM
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
                            [**2193-12-8**]  08:56 AM
                            [**2193-12-9**]  03:24 AM
                            [**2193-12-9**]  09:20 AM
                            [**2193-12-9**]  11:09 AM
                            [**2193-12-9**]  07:18 PM
                            [**2193-12-10**]  03:00 AM
                            [**2193-12-10**]  03:13 AM
   WBC
   8.3
   6.9
   7.8
   Hct
   22.5
   22.5
   25.1
   Plt
   [**Telephone/Fax (3) 11744**]
   Cr
   0.2
   0.2
   0.2
   TCO2
   34
   35
   35
   37
   35
   38
   36
   Glucose
   136
   128
   112
   Other labs: PT / PTT / INR:15.2/29.1/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, now presenting with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, collapse due to metastatic disease progresson
   (RML, LUL collapse) as well as contribution from an acute infectious
   process.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending cultures
   -- Continue PEEP of 10 fow now, monitor sats.  Wean vent as tolerated.
   -- ongoing discussion with the family
   .
   #. Hypotension
 Normatensive, off pressors for several days.
   Afebrile.
   -- IVF boluses as needed for MAP>60
   -- f/u pending cultures
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   # Constipation
 Pt. noed to have increased residuals with minimal rare
   tube feeds.  No BM in several days.
   --Add Miralax to bowel regimen.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes, Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: [**Hospital Unit Name 1**]

2193-12-10 13:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Extensive discussion with family as described in separate note.
   Current goals of care are to continue current level of support going
   forward.
   -Patient with attempts to move to lessened support with PEEP able to be
   decreased to 10 and FIO2 to 0.4 but had decrease in O2 sats to 90%
   transiently
   -Patient with high residuals in the setting of only 10cc/hr tube feeds.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-9**] 05:00 PM
   Metronidazole - [**2193-12-10**] 05:00 AM
   Vancomycin - [**2193-12-10**] 08:39 AM
   Cefipime - [**2193-12-10**] 12:05 PM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-10**] 01:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 74 (71 - 95) bpm
   BP: 102/60(77) {80/54(63) - 149/88(111)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 8 (3 - 13)mmHg
   Total In:
                                                                  1,870 mL
                                                                    914 mL
   PO:
   TF:
                                                                    370 mL
                                                                    126 mL
   IVF:
                                                                  1,440 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    695 mL
   Urine:
                                                                    900 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    970 mL
                                                                    219 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 93%
   ABG: 7.47/47/82.[**Numeric Identifier 143**]/32/8
   Ve: 6.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   256 K/uL
   112 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.7 mEq/L
   11 mg/dL
   104 mEq/L
   142 mEq/L
   25.1 %
   7.8 K/uL
        [image002.jpg]
                            [**2193-12-8**]  12:09 AM
                            [**2193-12-8**]  03:31 AM
                            [**2193-12-8**]  08:56 AM
                            [**2193-12-9**]  03:24 AM
                            [**2193-12-9**]  09:20 AM
                            [**2193-12-9**]  11:09 AM
                            [**2193-12-9**]  07:18 PM
                            [**2193-12-10**]  03:00 AM
                            [**2193-12-10**]  03:13 AM
                            [**2193-12-10**]  08:39 AM
   WBC
   8.3
   6.9
   7.8
   Hct
   22.5
   22.5
   25.1
   Plt
   [**Telephone/Fax (3) 11744**]
   Cr
   0.2
   0.2
   0.2
   TCO2
   35
   35
   37
   35
   38
   36
   35
   Glucose
   136
   128
   112
   Other labs: PT / PTT / INR:15.2/29.1/1.3, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--no significant change from prior--it does appear to be
   expiratory film today--there is modest improvement in airation of LUL
   Assessment and Plan
   37 yo female with significant extensive metastatic colon cancer noted
   and with persistent respiratory failure in the setting of extensive
   pulmonary lesions and with likely superimposed bacterial pneumonia.
   She has persistent and significant respiratory failure which has been
   refractory to weaning attempts in past but we have moved to decrease
   the PEEP levels with mild decrease in PaO2 noted.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-This remains a dominant
   problem
we have compliance of 20 this morning and with wean of PEEP we
   have seen substantial decrease in PaO2 and have concern for worsening
   atelectasis in the lower lobes noted.  This is likely secondary to
   malignancy and with superimposed infection.  We do not have, however,
   evidence of significant active infection present as WBC has normalized,
   fever  is absent.
   -Will continue with Cefepime
   -WIll continue with Hydrocort
   -Versed/Fentanyl
   -Will return PEEP to 15 if unable to tolerate current decrease
   2)Breast Cancer-
   -We have not evidence of any therapeutic intervention available and
   will continue to provide supportive care at this time.
   -This was presented with Dr. [**Last Name (STitle) 239**] and no intervention is possible
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-9**] 04:24 AM 10 mL/hour
held and will
   have to restart
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will have to continue to re-discuss with
   family current issues as regards fixed issue with cancer driving
   respiratory failure and no intervention possible for the cancer we are
   left with a significant issue where we have no reasonable expectation
   of meaninful recovery.  This will have to continue to be discussed with
   patient
s family in light of her wishes.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2193-12-11 06:52:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Metastatic colon cancer
   24 Hour Events:
   No events overnight
   Patient opens eyes to verbal stimuli, mother at bedside
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-10**] 04:52 PM
   Vancomycin - [**2193-12-10**] 11:52 PM
   Cefipime - [**2193-12-10**] 11:52 PM
   Metronidazole - [**2193-12-11**] 05:36 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 89 (74 - 99) bpm
   BP: 134/82(103) {92/56(69) - 149/85(110)} mmHg
   RR: 21 (18 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 9 (3 - 11)mmHg
   Total In:
                                                                  2,188 mL
                                                                    266 mL
   PO:
   TF:
                                                                    151 mL
   IVF:
                                                                  1,877 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    500 mL
   Urine:
                                                                    990 mL
                                                                    500 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,078 mL
                                                                   -234 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 97%
   ABG: 7.50/44/77.[**Numeric Identifier 143**]/33/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Edema of all 4 extremities, 2+ dorsalis pedis pulses
   Labs / Radiology
   210 K/uL
   7.0 g/dL
   141 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   22.2 %
   6.2 K/uL
        [image002.jpg]
                            [**2193-12-9**]  03:24 AM
                            [**2193-12-9**]  09:20 AM
                            [**2193-12-9**]  11:09 AM
                            [**2193-12-9**]  07:18 PM
                            [**2193-12-10**]  03:00 AM
                            [**2193-12-10**]  03:13 AM
                            [**2193-12-10**]  08:39 AM
                            [**2193-12-10**]  08:19 PM
                            [**2193-12-11**]  03:36 AM
                            [**2193-12-11**]  03:51 AM
   WBC
   6.9
   7.8
   6.2
   Hct
   22.5
   25.1
   22.2
   Plt
   199
   256
   210
   Cr
   0.2
   0.2
   0.2
   TCO2
   37
   35
   38
   36
   35
   35
   36
   Glucose
   128
   112
   141
   Other labs: PT / PTT / INR:16.1/28.8/1.4, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, who presented with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending respiratory culture
   -- Continue PEEP of 10 for now, monitor sats.  Wean vent as tolerated.
   -- ongoing discussion with the family
   .
   #. Hypotension
 Normotensive, off pressors for several days.
   Afebrile.
   -- IVF boluses as needed for MAP>60
   -- blood cultures negative
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   # Constipation
 Pt. noted to have increased residuals with minimal
   rare tube feeds.  Still has not had BM in several days, likely related
   to high dose sedatives/narcotics and possible related to colon cancer.
   --Added Miralax to bowel regimen yesterday, got one dose
   -- Will consider KUB to rule out obstruction in this patient with
   metastatic colon Ca
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes, Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: [**Hospital Unit Name 1**]

2193-12-11 12:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Palliative Care and Pastoral Care consulted
   -No fever overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-10**] 04:52 PM
   Cefipime - [**2193-12-10**] 11:52 PM
   Metronidazole - [**2193-12-11**] 05:36 AM
   Vancomycin - [**2193-12-11**] 07:54 AM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-12-11**] 07:55 AM
   Midazolam (Versed) - [**2193-12-11**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-11**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 68 (68 - 99) bpm
   BP: 111/66(84) {92/56(69) - 149/85(110)} mmHg
   RR: 18 (18 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 11 (7 - 11)mmHg
   Total In:
                                                                  2,188 mL
                                                                    664 mL
   PO:
   TF:
                                                                    151 mL
   IVF:
                                                                  1,877 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    790 mL
   Urine:
                                                                    990 mL
                                                                    790 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,078 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.50/44/77.[**Numeric Identifier 143**]/33/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended, Scar in place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   210 K/uL
   141 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.5 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   22.2 %
   6.2 K/uL
        [image002.jpg]
                            [**2193-12-9**]  03:24 AM
                            [**2193-12-9**]  09:20 AM
                            [**2193-12-9**]  11:09 AM
                            [**2193-12-9**]  07:18 PM
                            [**2193-12-10**]  03:00 AM
                            [**2193-12-10**]  03:13 AM
                            [**2193-12-10**]  08:39 AM
                            [**2193-12-10**]  08:19 PM
                            [**2193-12-11**]  03:36 AM
                            [**2193-12-11**]  03:51 AM
   WBC
   6.9
   7.8
   6.2
   Hct
   22.5
   25.1
   22.2
   Plt
   199
   256
   210
   Cr
   0.2
   0.2
   0.2
   TCO2
   37
   35
   38
   36
   35
   35
   36
   Glucose
   128
   112
   141
   Other labs: PT / PTT / INR:16.1/28.8/1.4, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR-LUL Collapse noted as new on CXR
   Assessment and Plan
   37 yo female with metastatic colon now with persistent and significant
   respiratory failure in the setting of profoundly poor compliance with
   extensive pulmonary involvement and a lesser contribution from
   infection at this time which may have been playing a role at
   admission.  She has continued ventilatory requirement across time
   1)Respiratory Failure-Patient with new LUL collapse.  She remains with
   compliance of 17 this morning
   Pneumonia-Vanco/Cefepime/Levo/Flagyl
   LUL Collapse-will move to bronch to re-expand as possible today
   Will have to consider move to tracheostomy if long term support is
   needed
   2)Sepsis-
   -Hydrocortisone in place
   -Hypotension resolved at this time and will continue on antibiotics
   3)CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)-
   -Stage IV
   -No further intervention possible.
   ICU Care
   Nutrition: Tube feeds limited in capacity to be tolerated at this time
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed with family in full
have discussed
   with social work and will continue to discuss goals of care going
   forward.  At a minimum would view DNR as important but currently full
   code
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2193-12-12 07:48:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint: metastatic colon CA; respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-12-11**] 04:03 PM- showed multiple areas of
   extrinsic compression obstruction by tumour (fixed defect) and no
   obvious mucous pluging; had thin secretions more likely d/t edema than
   infection
   - had KUB that showed no intestinal obstruction (done d/t high
   residuals from TF and no passage of stool )
   -PEEP increased to 12 from 10
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-11**] 04:49 PM
   Metronidazole - [**2193-12-11**] 10:00 PM
   Vancomycin - [**2193-12-12**] 12:00 AM
   Cefipime - [**2193-12-12**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-12-11**] 07:55 AM
   Midazolam-[**2193-12-11**] 04:03 PM
   Heparin Sodium (Prophylaxis) - [**2193-12-11**] 10:00 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-12**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 73 (58 - 98) bpm
   BP: 144/78(102) {88/55(68) - 161/90(119)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 8 (8 - 15)mmHg
   Total In:
                                                                  1,640 mL
                                                                    605 mL
   PO:
   TF:
                                                                     20 mL
                                                                    115 mL
   IVF:
                                                                  1,440 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    645 mL
   Urine:
                                                                  1,560 mL
                                                                    630 mL
   NG:
                                                                     10 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                     70 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/43/99.[**Numeric Identifier 126**]/31/8
   Ve: 5.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Edema of all 4 extremities, 2+ dorsalis pedis pulses
   Labs / Radiology
   226 K/uL
   7.5 g/dL
   123 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.1 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   23.6 %
   7.1 K/uL
        [image002.jpg]
                            [**2193-12-9**]  11:09 AM
                            [**2193-12-9**]  07:18 PM
                            [**2193-12-10**]  03:00 AM
                            [**2193-12-10**]  03:13 AM
                            [**2193-12-10**]  08:39 AM
                            [**2193-12-10**]  08:19 PM
                            [**2193-12-11**]  03:36 AM
                            [**2193-12-11**]  03:51 AM
                            [**2193-12-12**]  04:04 AM
                            [**2193-12-12**]  04:18 AM
   WBC
   7.8
   6.2
   7.1
   Hct
   25.1
   22.2
   23.6
   Plt
   [**Telephone/Fax (3) 11781**]
   Cr
   0.2
   0.2
   0.2
   TCO2
   35
   38
   36
   35
   35
   36
   34
   Glucose
   112
   141
   123
   Other labs: PT / PTT / INR:16.7/31.1/1.5, CK / CKMB /
   Troponin-T:/1/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, who presented with fever,
   hypoxemia, repsiratory distress, and probable sepsis.
   .
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending respiratory culture
   -- Continue PEEP of 10 for now, monitor sats.  Wean vent as tolerated.
   -- trial of pressure support today
   -- ongoing discussion with the family re: trach/ goals of care
   .
   #. Hypotension
 Normotensive, off pressors for several days.
   Afebrile.
   -- IVF boluses as needed for MAP>60
   -- blood cultures negative
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   # Constipation
 Pt. noted to have increased residuals with minimal
   rare tube feeds.  Still has not had BM in several days, likely related
   to high dose sedatives/narcotics and possible related to colon cancer.
   --Added Miralax to bowel regimen yesterday, got one dose
   -- add lactulose as KUB negative for obstruction
   -- rectal exam and possible manual disimpaction
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes, Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  [**Last Name (un) 11612**] [**Last Name (un) 11613**] ([**Last Name (un) **]/HCP) [**Telephone/Fax (1) 11614**]
   Code status:  FULL
   Confirmed full code in ED. Discussed extensively with patient and HCP,
   patient agreed to full code for now with intubation, but is clear that
   she would not like to be vented long-term and understands the risks of
   not ever getting off of the ventilator.
   Disposition: FICUDisposition:

2193-12-13 07:34:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint: respiratory distress, metastatic colon ca
   [**08**] Hour Events:
   - added lactulose
   - tried her on pressure support, had episode of tachycardia to the
   170's, then dropped SBP to the 60's, given 2L fluids, switched back to
   AC.  ECG showed sinus tachycardia and ST changes likely rate related vs
   demand ischemia.  Added on cardiac enzymes to pm labs, were wnl.
   - pm lytes with K 3.3, Phos 1.8, repleted
   - afternoon ABG 7.43/44/75/30/3 after switching back to AC
   - ordered TTE for tomorrow given her episode of hypotension
   - family meeting planned for 4pm tomorrow
   - had bowel movement!
   -this AM during rounds, had sustained monomorphic VT-> started
   amiodarone bolus and ggt
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate) dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-12**] 04:33 PM
   Cefipime - [**2193-12-13**] 12:00 AM
   Vancomycin - [**2193-12-13**] 12:00 AM
   Metronidazole - [**2193-12-13**] 05:30 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-12-12**] 07:15 PM
   Heparin Sodium (Prophylaxis) - [**2193-12-12**] 10:00 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 127 (68 - 174) bpm
   BP: 125/75(92) {62/42(51) - 168/99(124)} mmHg
   RR: 20 (18 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.8 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 9 (7 - 11)mmHg
   Total In:
                                                                  4,949 mL
                                                                  1,540 mL
   PO:
   TF:
                                                                    481 mL
                                                                    261 mL
   IVF:
                                                                  4,328 mL
                                                                  1,278 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    310 mL
   Urine:
                                                                  1,750 mL
                                                                    290 mL
   NG:
                                                                     20 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  3,179 mL
                                                                  1,230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/48/71/30/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: Edema of all 4 extremities, 2+ dorsalis pedis pulses
   Labs / Radiology
   212 K/uL
   6.8 g/dL
   161 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.5 mEq/L
   9 mg/dL
   108 mEq/L
   143 mEq/L
   21.4 %
   6.9 K/uL
        [image002.jpg]
                            [**2193-12-10**]  08:19 PM
                            [**2193-12-11**]  03:36 AM
                            [**2193-12-11**]  03:51 AM
                            [**2193-12-12**]  04:04 AM
                            [**2193-12-12**]  04:18 AM
                            [**2193-12-12**]  01:18 PM
                            [**2193-12-12**]  03:44 PM
                            [**2193-12-12**]  03:58 PM
                            [**2193-12-13**]  04:06 AM
                            [**2193-12-13**]  04:27 AM
   WBC
   6.2
   7.1
   8.8
   6.9
   Hct
   22.2
   23.6
   23.8
   21.4
   Plt
   [**Telephone/Fax (3) 11795**]12
   Cr
   0.2
   0.2
   0.2
   0.2
   TropT
   <0.01
   TCO2
   35
   36
   34
   33
   30
   31
   Glucose
   141
   123
   141
   161
   Other labs: PT / PTT / INR:16.2/39.1/1.4, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA, who presented with fever,
   hypoxemia, repsiratory distress, now complicated by monomorphic VT.
   # Monomorphic VT- monomorphic VT would usually arise due to scarring of
   myocardium; however, pt has no history of coronary disease; unclear if
   cancer burden affecting pericardium? Other etiologies are electrolyte
   imblanaces (as pt has been hypokalemic) and medication side effects.
   -- start amiodarone bolus, drip 150mg x1 then 1mg/min for 6h, then
   0.5mg/min for 18h
   -- after this, will transition to amiodarone 400mg [**Hospital1 7**]
   -- d/c
d reglan and zofran as these can prolong QT interval ( although
   more likely to cause torsades than monomorphic VT)
   -- monitor [**Hospital1 7**] lytes and replete K > 4, Mg > 2
   .
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- continue broad spectrum coverage with
   vanc/cefepime/levofloxacin/flagyl
   -- f/u pending respiratory culture
   -- Continue PEEP of 12 for now, monitor sats.
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   mtg planned for 4pm today
   .
   #. Hypotension
 Normotensive, off pressors for several days.
   Afebrile.
   -- IVF boluses as needed for MAP>60
   -- blood cultures negative
   -- stress dose hydrocostisone given ongoing outpt dexamethasone use
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   #. Anemia- HCT drop to 21 today from 23 x-fusing 1uPRBC and checking PM
   Hct
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-12**] 11:18 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: venodynes, sc heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments: hcp brother
   Communication:  Comments:  whole family
   Code status: FULL for now, pending fam mtg 4pm
   Disposition: [**Hospital Unit Name 1**]

2193-12-14 07:45:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-12-13**] 08:45 AM
   -Had sustained 41-beat run of polymorphic VT around 0915 on [**12-13**]
   etiology is likely metabolic, due to hypokalemia (maybe dropped K from
   large bowel movement night prior?) as metabolic disturbances would
   cause polymorphic VT (monomorphic more from scar tissue)
   - we started amiodarone bolus & ggt will transition to po amio 400 [**Hospital1 **]
   after drip is done, got 12 lead EKG, wrote event note
   - d/c'd reglan and zofran as these can prolong QT interval (although
   this would lead to torsades rather than polymorphic VT)
   - TTE done shows no wall motion abnl, LVEF 70% no big obvious tumours,
   small pericardial effusion but no evidence of tamponade
   - had family meeting at 4pm with Dr [**Last Name (STitle) 5077**], Dr [**First Name (STitle) 11801**] [**Name (STitle) 11802**] (for
   pal care not ethics) and the very large extended family. Family still
   wants everything done, wants to know if there are stronger abx, chemo
   or XRT options. Definitely still a FULL code. Spoke to them about
   potential harms of chest compressions. They are orthodox catholic and
   want their priest present; chaplain services were called but they did
   not wish to speak w chaplain because she was female. they want another
   family mtg on Monday to discuss traching her. This does differ from her
   initial wishes in the ED where she explicitly stated she only wanted to
   be on the ventilator for a short period of time. Frank from social work
   knows the family and will be back on Monday and Dr. [**Last Name (STitle) 239**]
   (outpatient oncologist) will be present then as well
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate) dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Vancomycin - [**2193-12-14**] 12:35 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Amiodarone - [**2193-12-13**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-14**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 62 (62 - 114) bpm
   BP: 106/64(83) {94/56(70) - 161/90(131)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  4,780 mL
                                                                    881 mL
   PO:
   TF:
                                                                    803 mL
                                                                    216 mL
   IVF:
                                                                  3,817 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    660 mL
   Urine:
                                                                  1,445 mL
                                                                    660 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  3,315 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 32 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/41/90.[**Numeric Identifier 126**]/30/7
   Ve: 8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   HEENT: marked scleral edema B/L
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: stable edema of all 4 extremities, 2+ dorsalis pedis
   pulses
   Labs / Radiology
   258 K/uL
   7.7 g/dL
   133 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.5 mEq/L
   7 mg/dL
   106 mEq/L
   142 mEq/L
   25.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2193-12-12**]  03:44 PM
                            [**2193-12-12**]  03:58 PM
                            [**2193-12-13**]  04:06 AM
                            [**2193-12-13**]  04:27 AM
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
   WBC
   8.8
   6.9
   10.5
   Hct
   23.8
   21.4
   23.3
   25.1
   Plt
   247
   212
   258
   Cr
   0.2
   0.2
   0.2
   0.2
   TropT
   <0.01
   TCO2
   30
   31
   33
   31
   32
   Glucose
   141
   161
   167
   243
   133
   Other labs: PT / PTT / INR:16.2/39.1/1.4, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with repsiratory distress, s/p polymorphic VT.
   # Polymorphic VT- no further episodes of polymorphic VT since yesterday
   AM. Pt still on amiodarone drip 0.5mg/min until 10am.
   Etiology likely electrolyte imbalance (prior hypokalemia) and/or
   medication side effect. Reglan and Zofran were discontinued due to
   their ability to prolong QT interval (although this would cause
   torsades). TTE shows no evidence of wall motion abnormalities and
   normal LVEF
   -- transition to amiodarone 400mg [**Hospital1 7**] today, 1^st dose at 8pm
   -- continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- has completed 10 day course of [**Last Name (LF) 11804**], [**First Name3 (LF) **] d/c all abx today
   -- f/u pending respiratory culture
   -- Continue PEEP of 12 for now, monitor sats.  Keep on current settings
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   mtg on Monday w/ SW
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-14**] 12:03 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin SQ, venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments: brother [**Name (NI) 653**], whole family
   Communication:  Comments:
   Code status: FULL for now (but chest compressions more  harmful than
   beneficial)
   Disposition: [**Hospital Unit Name 1**]

2193-12-14 08:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-12-13**] 08:45 AM
   -VT noted yesterday, K+=3.5--Amiodarone started, TTE done--no FWMA,
   EF=70%, small pericardial effusion
   -Family Meeting-Looking for clarification of further interventions
   possible which are not available.  CPR not indictated is in place
   History obtained from Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Vancomycin - [**2193-12-14**] 12:35 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Amiodarone - [**2193-12-13**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Bradycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2193-12-14**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 53 (53 - 114) bpm
   BP: 116/67(87) {94/56(70) - 161/90(131)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 68 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  4,780 mL
                                                                  1,011 mL
   PO:
   TF:
                                                                    803 mL
                                                                    244 mL
   IVF:
                                                                  3,817 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    770 mL
   Urine:
                                                                  1,445 mL
                                                                    770 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  3,315 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 32 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/41/90.[**Numeric Identifier 126**]/30/7
   Ve: 8 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   258 K/uL
   133 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.5 mEq/L
   7 mg/dL
   106 mEq/L
   142 mEq/L
   25.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2193-12-12**]  03:44 PM
                            [**2193-12-12**]  03:58 PM
                            [**2193-12-13**]  04:06 AM
                            [**2193-12-13**]  04:27 AM
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
   WBC
   8.8
   6.9
   10.5
   Hct
   23.8
   21.4
   23.3
   25.1
   Plt
   247
   212
   258
   Cr
   0.2
   0.2
   0.2
   0.2
   TropT
   <0.01
   TCO2
   30
   31
   33
   31
   32
   Glucose
   141
   161
   167
   243
   133
   Other labs: PT / PTT / INR:16.2/39.1/1.4, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: AG-7
   Imaging: CXR-No interval change and tubes and lines in good position.
   Assessment and Plan
   37 yo female with metastatic colon cancer and now with persistent and
   significant respiratory failure not complicated by ventricular
   tachycardia.
   1)Respiratory Failure-Patient with elevated Pplat in the setting of
   improved oxygenation with both bronchoscopy and increase in PEEP.  Will
   continue to work with pressures to maintain oxygenation.
   -Will continue with current settings and follow ABG
   -Will continue to maintain PEEP=12 at this time
   -Will need to maintain A/C support as we are unable to wean sedation
   without excessive patient discomfort
   2)Ventricular Tachycardia-
   -Amiodarone to move to PO
   3)Sepsis-Presumed pulmonary source
   -Vanco/Cefepime to be completed at this time
   -Will re-culture for fevers or evidence of recurrent infection.
   4)Colon Cancer
   -Will continue Keppra
   -No further treatment possible at this time
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-14**] 12:03 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Treatment-_CPR not indictaed
   Disposition :ICU
   Total time spent: 45 minutes

2193-12-15 07:22:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Metastatic colon cancer
   24 Hour Events:
   - No events overnight
   - PEEP not adjusted, left at 12
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Vancomycin - [**2193-12-14**] 08:38 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-15**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 69 (54 - 83) bpm
   BP: 90/54(67) {90/54(67) - 172/92(123)} mmHg
   RR: 23 (22 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 9 (9 - 10)mmHg
   Total In:
                                                                  2,305 mL
                                                                    444 mL
   PO:
   TF:
                                                                    599 mL
                                                                    218 mL
   IVF:
                                                                  1,486 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    335 mL
   Urine:
                                                                  1,780 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 7.9 L/min
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   HEENT: marked scleral edema B/L
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or [**Last Name (un) 1011**].
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: stable edema of all 4 extremities, 2+ dorsalis pedis
   pulses
   Labs / Radiology
   195 K/uL
   7.0 g/dL
   142 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   9 mg/dL
   108 mEq/L
   143 mEq/L
   22.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2193-12-12**]  03:58 PM
                            [**2193-12-13**]  04:06 AM
                            [**2193-12-13**]  04:27 AM
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
   WBC
   6.9
   10.5
   7.4
   Hct
   21.4
   23.3
   25.1
   22.1
   Plt
   [**Telephone/Fax (3) 11817**]
   Cr
   0.2
   0.2
   0.2
   0.2
   TCO2
   30
   31
   33
   31
   32
   Glucose
   161
   167
   243
   133
   142
   Other labs: PT / PTT / INR:16.2/39.1/1.4, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with repsiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 High compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- has completed 10 day course of antibiotics, have stopped all Abx
   yesterday
   -- f/u pending respiratory culture (sputum fungal culture)
   -- Continue PEEP of 12 for now, monitor sats.  Keep on current settings
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   mtg on Monday w/ SW
   # Polymorphic VT- no further episodes of VT since yesterday AM. Pt now
   on amiodarone 400mg po BID.  Etiology likely electrolyte imbalance
   (prior hypokalemia) and/or medication side effect. Reglan and Zofran
   were discontinued due to their ability to prolong QT interval (although
   this would cause torsades). TTE shows no evidence of wall motion
   abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today
   -- continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  happens again
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-14**] 03:55 PM 30.[**Telephone/Fax (3) 11818**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin SQ, venodynes
   Stress ulcer: PPI
   VAP:  bundle
   Comments: brother [**Name (NI) 653**], whole family
   Communication:  Comments:
   Code status: FULL for now (but chest compressions more harmful than
   beneficial)
   Disposition: [**Hospital Unit Name 1**]

2193-12-15 13:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued A/C support overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Vancomycin - [**2193-12-14**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-15**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-15**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 56 (55 - 84) bpm
   BP: 127/70(93) {90/54(67) - 172/92(123)} mmHg
   RR: 22 (22 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 18 (9 - 18)mmHg
   Total In:
                                                                  2,305 mL
                                                                    794 mL
   PO:
   TF:
                                                                    599 mL
                                                                    390 mL
   IVF:
                                                                  1,486 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    855 mL
   Urine:
                                                                  1,780 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 16.7 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   195 K/uL
   142 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   9 mg/dL
   108 mEq/L
   143 mEq/L
   22.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2193-12-12**]  03:58 PM
                            [**2193-12-13**]  04:06 AM
                            [**2193-12-13**]  04:27 AM
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
   WBC
   6.9
   10.5
   7.4
   Hct
   21.4
   23.3
   25.1
   22.1
   Plt
   [**Telephone/Fax (3) 11817**]
   Cr
   0.2
   0.2
   0.2
   0.2
   TCO2
   30
   31
   33
   31
   32
   Glucose
   161
   167
   243
   133
   142
   Other labs: PT / PTT / INR:16.2/39.1/1.4, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:92.2 %, Lymph:4.0 %, Mono:3.6
   %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR--ETT and CVL's in good position, persistent LUL collapse
   and mild increase in patchy opacity in RLL.
   Assessment and Plan
   37 yo female with significant respiratory failure in the setting of
   extensive metastatic colon cancer now with persistent respiratory
   failure and inability to wean from mechanical ventilation in the
   setting of no further possible intervention for her primary issue of
   metastatic colon cancer.  We have seen persistence of level of support
   required across time.
   1)Respiratory Failure-
   -Continue with A/C support
   -Will maintain adequate PEEP
   -No intervention for improvement in regards to collapse at this time
   -Failed PEEP trial in the past
   2)CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   -Will continue to discuss with Dr. [**Last Name (STitle) 239**] in regards to family
   questions which have been answered as there is no further intervention
   possible
   3)Tachycardia-Supraventricular
   _Amiodarone
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-15**] 11:52 AM 30.[**Telephone/Fax (3) 11818**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: CPR not indicated
   Disposition :ICU
   Total time spent: 35 minutes

2193-12-16 06:30:00 Physician Resident Progress Note
Chief Complaint: advanced metastatic colon cancer, hypoxia, respiratory
   distress
   24 Hour Events:
   Bradycardic to low 50s this am-> still gave amiodarone
   Patient unable to provide history: Sedated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Vancomycin - [**2193-12-14**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-15**] 08:54 AM
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Amiodarone 6. Artificial Tear
   Ointment 7. Bisacodyl
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 9. Dextrose 50% 10.
   Docusate Sodium (Liquid) 11. Fentanyl Citrate
   12. Glucagon 13. Heparin Flush (10 units/ml) 14. Heparin Flush (100
   units/ml) 15. Heparin 16. Hydrocortisone Na Succ.
   17. Insulin 18. Lansoprazole Oral Disintegrating Tab 19. Lactulose 20.
   LeVETiracetam 21. Midazolam
   22. Polyethylene Glycol 23. Potassium Chloride 24. Potassium Chloride
   25. Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: not assessible
   Flowsheet Data as of  [**2193-12-16**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 63 (56 - 99) bpm
   BP: 124/70(92) {95/56(72) - 162/91(119)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
    CVP: 11 (10 - 18)mmHg
   Total In:
                                                                  1,534 mL
                                                                    395 mL
   PO:
   TF:
                                                                    722 mL
                                                                    194 mL
   IVF:
                                                                    812 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    280 mL
   Urine:
                                                                  1,545 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/41/90 ([**12-14**])
   Ve: 7.8 L/min
   Physical Examination
   Gen: NAD, comfortable, opens eyes to voice, does not follow commands
   CV: RRR NL s1/s2 no murmur
   Pulm: CTA b/l
   Abd: midline scar, +BS, soft, NT, mildly distended, blood clots in
   foley
   Ext: 1+ edema in all extremities
   Labs / Radiology
   200 K/uL
   7.0 g/dL
   142 mg/dL
   0.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   12 mg/dL
   109 mEq/L
   145 mEq/L
   22.2 %
   7.5 K/uL
        [image002.jpg]
   PCP sputum inadequate [**12-7**]
   Fungal sputum prelim [**12-4**]
                            [**2193-12-13**]  04:27 AM
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
   WBC
   10.5
   7.4
   7.5
   Hct
   23.3
   25.1
   22.1
   22.2
   Plt
   258
   195
   200
   Cr
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   31
   33
   31
   32
   Glucose
   167
   243
   133
   142
   134
   142
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   37F with widely metastatic colon CA to lungs and brain, who presented
   with repsiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 Low compliance is a barrier to extubation.
   Likely multifactorial, lobar collapse due to metastatic disease
   progresson (RML, LUL collapse) as well as contribution from an acute
   infectious process.
   -- has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Continue PEEP of 12 for now, monitor sats.  Decrease RR to 18 and
   recheck ABG given pH in 7.5s
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   mtg today with SW this afternoon: will alert HO, SW
   # Polymorphic VT- no further episodes of VT since [**12-14**]. Pt now on
   amiodarone 400mg po BID.  Etiology likely electrolyte imbalance (prior
   hypokalemia) and/or medication side effect. Reglan and Zofran were
   discontinued due to their ability to prolong QT interval (although this
   would cause torsades). TTE shows no evidence of wall motion
   abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today
   -- continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  happens again
   .
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-16**] 03:45 AM 30.[**Telephone/Fax (3) 11818**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Heparin SC, venodynes
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  HCP, brother
   [**Name (NI) 36**] status:  full, for now
   Disposition: ICU, family meeting today

2193-12-16 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with continued and persistent respiratory failure
   History obtained from Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-13**] 04:00 PM
   Cefipime - [**2193-12-14**] 12:00 AM
   Metronidazole - [**2193-12-14**] 05:44 AM
   Vancomycin - [**2193-12-14**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-16**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 66 (55 - 99) bpm
   BP: 156/92(117) {95/56(72) - 162/92(119)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
   CVP: 11 (10 - 15)mmHg
   Total In:
                                                                  1,534 mL
                                                                    895 mL
   PO:
   TF:
                                                                    722 mL
                                                                    423 mL
   IVF:
                                                                    812 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    480 mL
   Urine:
                                                                  1,545 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.53/38/91/31/8
   Ve: 8.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   200 K/uL
   142 mg/dL
   0.1 mg/dL
   31 mEq/L
   3.8 mEq/L
   12 mg/dL
   109 mEq/L
   145 mEq/L
   22.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2193-12-13**]  09:49 AM
                            [**2193-12-13**]  03:00 PM
                            [**2193-12-13**]  03:16 PM
                            [**2193-12-13**]  06:00 PM
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
                            [**2193-12-16**]  11:35 AM
   WBC
   10.5
   7.4
   7.5
   Hct
   23.3
   25.1
   22.1
   22.2
   Plt
   258
   195
   200
   Cr
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   33
   31
   32
   33
   Glucose
   167
   243
   133
   142
   134
   142
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR-
   Assessment and Plan
   37 yo female with widely metastatic colon cancer now with persistent
   and significant respiratory compromise who now has had full treatment
   for bacterial pneumonia but remains with profound respiratory
   compromise and inability to wean from ventilator.  Given the findings
   on bronchoscopy we see strong evidence for proximal obstruction with
   endobronchial lesions which are too distal for any IP based
   intervention for stenting.
   1)Respiratory Failure-patient with persistent severe impairment in
   regards to compliance and maintains lobar collapse and persistence of
   bilateral infiltrates.
   -Will decrease RR to 14 to trial today
   -Will continue with PEEP at current levels
   -Patient with pneumonia with ongoing treatment successful in resolution
   of bacterial infection based upon fever, WBC count
   -No role for stent given extensive and distal location of lesions.
   2)VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   _Continue with amiodarone but will have to be careful with bradycardia
   3)Colon Cancer-
   -No further interventions possible for colon cancer or local therapy
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-16**] 03:45 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will need to
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2193-12-17 07:03:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Metastatic Colon Cancer
   24 Hour Events:
   -decreased RR 22->16 on AC (due to ABG 7.50/41/94/33), repeat
   ABG:7.39/54/100/34.  RR then increased to 18.
   - Family meeting at 3pm: CPR not indicated. Family still needs
   reassurance that there is nothing further to do.  Emailed radiation
   oncology and IP to get more information for further family discussion.
   Family would like second opinion
   -10 pm repositioned and became tachycardic, resolved by the morning.
   ECG done and appeared sinus tachycardia.
 EKG - At [**2193-12-16**] 11:00 PM
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Vancomycin - [**2193-12-14**] 08:38 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-16**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Not obtainable
   Flowsheet Data as of  [**2193-12-17**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 79 (55 - 122) bpm
   BP: 153/86(112) {89/46(62) - 156/92(117)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  2,155 mL
                                                                    533 mL
   PO:
             TF:
                                                                    903 mL
                                                                    310 mL
   IVF:
                                                                  1,152 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    125 mL
   Urine:
                                                                    815 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 35 cmH2O
   SpO2: 97%
   ABG: 7.39/54/99.[**Numeric Identifier 508**]/30/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GENERAL: intubated, sedated, spontaneously opening eyes but not
   tracking.
   HEENT: marked scleral edema B/L
   Neck: LIJ in place.
   CARDIAC: regular rhythm with occasional ectopy. Normal S1, S2. No
   murmurs, rubs or gallops.
   CHEST: Port in place. Course ventillated breath sounds.
   ABDOMEN: Well healed surgical scar. NABS. Soft, NT, ND.
   EXTREMITIES: stable edema of all 4 extremities, 2+ dorsalis pedis
   pulses
   Labs / Radiology
   216 K/uL
   7.5 g/dL
   230 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
                            [**2193-12-16**]  11:35 AM
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
   WBC
   10.5
   7.4
   7.5
   10.3
   Hct
   25.1
   22.1
   22.2
   23.7
   Plt
   258
   195
   200
   216
   Cr
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   TCO2
   32
   33
   33
   34
   Glucose
   133
   142
   134
   142
   149
   230
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Continue PEEP of 12 for now, monitor sats.  Decreased RR to 18
   yesterday and pH has normalized, and shows combination metabolic
   alkalosis and respiratory acidosis.  Will leave vent settings as is.
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   wants to speak with oncology and IP for further options although given
   reassurance that no further interventions are likely to help.  Will get
   second opinions set up for the family.
   - Had been given stress dose steroids, will d/c to home dose in IV form
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**]. Pt now on amiodarone
   400mg po BID.  Also had sinus tachycardia episode last night in setting
   of being turned, possibly related to pain and perturbation.
   -- Have dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today (today is day 3, day 4 will
   start with evening dose today)
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  arrhythmias happen again
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs, although are not following daily
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   #. Lack of bowel movements: Most likely ileus or constipation due to
   heavy sedation, less likely obstruction.
   - Will add erythromycin to encourage motility
   - Continue aggressive bowel regimen
   - Consider po narcan
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2193-12-14**] 03:55 PM 30.[**Telephone/Fax (3) 11818**]
   mL/hour, having high tube residuals
   Glycemic Control:  Insulin Sliding Scale
   Lines: Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin SQ, venodynes
   Stress ulcer: PPI (Lansoprazole)
   VAP:  Bundle
   Comments: brother [**Name (NI) 653**], whole family
   Communication:  Comments:
   Code status: FULL for now (but chest compressions more harmful than
   beneficial)
   Disposition: [**Hospital Unit Name 1**]

2193-12-17 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2193-12-16**] 11:00 PM
   Family Meeting Held-Family looking to be sure that there is nothing
   further which there is not.  They explored possibility of second option
   which was acknowleged by Dr. [**Last Name (STitle) 4753**] and opinion would be in regards to
   cancer treatment.
   History obtained from Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-17**] 08:10 AM
   Lansoprazole (Prevacid) - [**2193-12-17**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (55 - 122) bpm
   BP: 116/65(83) {89/46(62) - 156/92(117)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  2,155 mL
                                                                    786 mL
   PO:
             TF:
                                                                    903 mL
                                                                    310 mL
   IVF:
                                                                  1,152 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    410 mL
   Urine:
                                                                    815 mL
                                                                    185 mL
   NG:
   225 mL
   Stool:
   Drains:
   Balance:
                                                                  1,340 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.39/54/99.[**Numeric Identifier 508**]/30/5
   Ve: 6.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   216 K/uL
   230 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                            [**2193-12-14**]  03:28 AM
                            [**2193-12-14**]  04:28 AM
                            [**2193-12-15**]  03:56 AM
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
                            [**2193-12-16**]  11:35 AM
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
   WBC
   10.5
   7.4
   7.5
   10.3
   Hct
   25.1
   22.1
   22.2
   23.7
   Plt
   258
   195
   200
   216
   Cr
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   TCO2
   32
   33
   33
   34
   Glucose
   133
   142
   134
   142
   149
   230
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--LUL collapse persists, RLL collapse has expanded
   Assessment and Plan
   37 yo female with extensive metastatic colon cancer now with persistent
   hypoxemic respiratory failure despite optimal treatment of pneumonia
   and exploration of all options for further intervention to maintian
   airway patency explored and nothing further able to be offered.  No
   further therapy for cancer available per oncology team at this point.
   Recent course notable for occurance of ventricular tachycardia.
   1)Respiratory Failure-
   -Will continue with A/C support--will continue to titrate to blood gas
   -Given persistence of profound compromise in regards to significant
   collapse, infiltrate are not able to wean support levels at this time
   -Will continue with A/C and goal pH-7.40
   -Oxygenation adequate
   -Did discuss with IP and not interventions available for her care
   -Has been intubated for 13 days at this time
   2)Metastatic Colon Cancer-
   -Will await response from oncology in regards to radiation oncology
   options
   -Will await final response for second opinion in regards to cancer care
   if able to be obtained
   3)Tachycardia
ST and bradycardia and ventricular tachycardia
   -Amiodarone to taper to po dosing
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
but CPR not indicated
   Disposition :ICU
   Total time spent: 40 minutes

2193-12-18 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -plan to change does of Amiodarone on [**12-21**]
   -pharmacy called to say IV erythromycin not available, got PO dose.
   Had 3 small BMs during day as of 730pm
   -radonc to come tomorrow when family here to emphasize no other options
   pager [**Numeric Identifier 11867**]
   -Dr. [**Last Name (STitle) 239**] came by
   No events overnight.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:33 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-12-17**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2193-12-17**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 56 (55 - 85) bpm
   BP: 100/57(76) {99/57(73) - 153/90(115)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,463 mL
                                                                    445 mL
   PO:
             TF:
                                                                    390 mL
                                                                    146 mL
   IVF:
                                                                    852 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    735 mL
   Urine:
                                                                    740 mL
                                                                    735 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                    498 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 30 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/52/112/32/9
   Ve: 5.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: intubated and sedated, opens eyes to verbal and tactile stimuli
   but does not track
   HEENT: significant scleral edema
   CV: sinus bradycardia, nl S1, S2, no m/r/g
   Pulm: Coarse breath sounds b/l with short expiratory phase, anterior
   exam only.  Port in place rt chest
   Abd: soft, ND, +BS
   Extrem: 2+ edema in LE b/l, 2+ DP pulses b/l
   Labs / Radiology
   192 K/uL
   7.1 g/dL
   152 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   142 mEq/L
   22.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
                            [**2193-12-16**]  11:35 AM
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
   WBC
   7.5
   10.3
   8.1
   Hct
   22.2
   23.7
   22.9
   Plt
   200
   216
   192
   Cr
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   TCO2
   33
   33
   34
   36
   Glucose
   134
   142
   149
   230
   91
   152
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Continue PEEP of 12 for now, monitor sats.  pH to normal on current
   settings, ABG shows combination metabolic alkalosis and respiratory
   acidosis.  Will leave vent settings as is.
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   wants to speak with oncology and IP for further options although given
   reassurance that no further interventions are likely to help.  Will get
   second opinions set up for the family.
   - Had been given stress dose steroids
 changed to PO dexamethasone 4
   q12h
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**]. Pt now on amiodarone
   400mg po BID.
   -- Have dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today (today is day 4)
 plan to
   change dose on [**12-21**]
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  arrhythmias happen again
   #. Stage 4 metastatic colon CA -
   -- f/u oncology recs, although are not following daily
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   #. Lack of bowel movements: Now improved with erythromycin, felt to be
   ileus or constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen
   - Consider po narcan if worsens
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-18**] 05:52 AM 20 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin sq, venodynes
   Stress ulcer: lansoprazole
   VAP:  bundle
   Comments: Communication with brother [**Name (NI) 653**]
   Communication:  Comments:
   Code status: Compressions Not indicated, otherwise full code
   Disposition: ICU for now

2193-12-18 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No acute events overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-17**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-18**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 55 (55 - 77) bpm
   BP: 95/53(70) {95/53(70) - 153/90(115)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,463 mL
                                                                    697 mL
   PO:
             TF:
                                                                    390 mL
                                                                    220 mL
   IVF:
                                                                    852 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                  1,135 mL
   Urine:
                                                                    740 mL
                                                                  1,135 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                    498 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 30 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/52/112/32/9
   Ve: 6.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   192 K/uL
   152 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   142 mEq/L
   22.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2193-12-15**]  03:15 PM
                            [**2193-12-16**]  03:51 AM
                            [**2193-12-16**]  11:35 AM
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
   WBC
   7.5
   10.3
   8.1
   Hct
   22.2
   23.7
   22.9
   Plt
   200
   216
   192
   Cr
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   TCO2
   33
   33
   34
   36
   Glucose
   134
   142
   149
   230
   91
   152
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR-NO change
   Microbiology: NO new data
   Assessment and Plan
   37 yo female with history of metastatic colon cancer now with severe
   and persistent respiratory failure in the setting of extensive
   metastatic disease and with no further Rx available for cancer.  She
   has had hospital course complicated by polymorphic VT now on
   amiodarone.  We have persistent severe compromise in compliance and
   inability to wean from mechanical ventilator support despite clearing
   of infection and sepsis resolution.
   1) VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)-
   -Continue Amiodarone
   2) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Fixed and poor compliance of 17 persists
   -Will trial wean of PEEP if BP decreased but do fear further areas of
   collapse will evolve
   -Continue with A/C
   3)COLON CANCER
METASTATIC
   -Will have meeting with radiation oncologist today to clarify that no
   further intervention is possible or reasonable.
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Indwelling Port (PortaCath) - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will have meeting with radiation oncology
   today and oncology to clarify that no further treatment is possible.
   Re-address goals of care with family in light of that discussion.
   Code status: Full code-_CPR not indicated
   Disposition :ICU
   Total time spent: 45 minutes

2193-12-19 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - STOP [**2193-12-18**] 07:00 PM
   - Family meeting held with rad oncology ( HCP [**Name (NI) **] [**Telephone/Fax (1) 11614**]).
   Rad onc  ([**First Name8 (NamePattern2) 3926**] [**Last Name (NamePattern1) 11896**] RN was also present from rad onc) said that
   nothing else to offer and they felt that she is suffering.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:23 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-18**] 10:48 PM
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Amiodarone 6. Artificial Tear
   Ointment 7. Bisacodyl
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 9. Dextrose 50% 10.
   Dexamethasone 11. Docusate Sodium (Liquid)
   12. Erythromycin 13. Fentanyl Citrate 14. Glucagon 15. Heparin Flush
   (10 units/ml) 16. Heparin Flush (100 units/ml)
   17. Heparin 18. Insulin 19. Lansoprazole Oral Disintegrating Tab 20.
   Lactulose 21. LeVETiracetam
   22. Midazolam 23. Polyethylene Glycol 24. Senna 25. Sodium Chloride
   0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-19**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 61 (52 - 82) bpm
   BP: 100/61(77) {92/53(67) - 163/96(124)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,558 mL
                                                                    329 mL
   PO:
             TF:
                                                                    576 mL
                                                                     93 mL
   IVF:
                                                                    803 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    750 mL
   Urine:
                                                                  2,535 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   SpO2: 99%
   ABG: 7.43/52/112
   Ve: 5.5 L/min
   Physical Examination
   Gen: not arousable to voice.  Opened eyes to pressing abd, scleral
   edema
   CV: RRR nl s1/s2 no mrg
   Pulm: coarse breath sounds diffusely
   Abd: +BS, soft, NT, ND
   Ext: 1+ [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 582**] / Radiology
   178 K/uL
   6.7 g/dL
   122 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   106 mEq/L
   144 mEq/L
   22.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2193-12-16**]  11:35 AM
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
   WBC
   10.3
   8.1
   7.5
   Hct
   23.7
   22.9
   22.1
   Plt
   [**Telephone/Fax (3) 11897**]
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   33
   33
   34
   36
   Glucose
   149
   230
   91
   152
   172
   122
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Continue PEEP of 12 for now, monitor sats.  pH to normal on current
   settings, ABG shows combination metabolic alkalosis and respiratory
   acidosis.  Will leave vent settings as is.
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   wants to speak with oncology and IP for further options although given
   reassurance that no further interventions are likely to help.  Will get
   second opinions set up for the family.
   - Had been given stress dose steroids
 changed to PO dexamethasone 4
   q12h on [**12-17**]: ? decrease
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**]. Pt now on amiodarone
   400mg po BID.
   -- Had dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today (today is day 6)
 plan to
   change dose on [**12-21**]
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- f/u oncology recs, although are not following daily
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   #. Lack of bowel movements: Now improved with erythromycin, felt to be
   ileus or constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen
   - Consider po narcan if worsens
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-19**] 05:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  no compressions
   Disposition: need to d/w family now that have rad/onc opinion

2193-12-19 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Metastatic Colon Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - STOP [**2193-12-18**] 07:00 PM
   -Radiation Oncology with input provided that no further intervention
   possible.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:23 PM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-19**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 74 (53 - 82) bpm
   BP: 107/59(77) {92/53(67) - 163/96(124)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,558 mL
                                                                    849 mL
   PO:
             TF:
                                                                    576 mL
                                                                    286 mL
   IVF:
                                                                    803 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,050 mL
   Urine:
                                                                  2,535 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 34 cmH2O
   SpO2: 98%
   ABG: 7.48/45/153/31/9
   Ve: 6.4 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   178 K/uL
   122 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   10 mg/dL
   106 mEq/L
   144 mEq/L
   22.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2193-12-16**]  01:47 PM
                            [**2193-12-16**]  02:00 PM
                            [**2193-12-16**]  06:31 PM
                             [**2193-12-17**]  04:18 AM
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
   WBC
   10.3
   8.1
   7.5
   Hct
   23.7
   22.9
   22.1
   Plt
   [**Telephone/Fax (3) 11897**]
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   33
   34
   36
   34
   Glucose
   149
   230
   91
   152
   172
   122
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR--None new
   Assessment and Plan
   37 yo female with metastatic colon cancer and peristent hypoxemic
   respiratory failure.  She has continued profound compromise of
   pulmonary function and hypoxemia.
   1)Respiratory Failure-
   -Continue with A/C suppport
   -Will wean PEEP today given significant increase in peak and plataeu
   pressures
   -Negative fluid balance as possible to continue
   2)VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
   -Amiodarone
   3)Colon cancer--Metastatic-
   -Dexamethasone to return at this time
   -No further treatments are possible
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-19**] 10:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will need to continue to discuss the care
   plan in light of the fact that no further intervention for cancer is
   possible and patient has current limitations that prevent capacity to
   wean from ventilator support at this time.  Active infection has
   resolved.  Will state that our recommendation is to move to CMO status
   at this time as we have clear data from all components of oncology team
   that no intervention is possible and we medically have had resolution
   of acute insult as best as is possible.
   Code status: Full code
CPR not indicated.
   Disposition :ICU
   Total time spent: 33 minutes

2193-12-20 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -spoke with HCP and seems more amenable to withdrawing care
   -decreased PEEP to 10 -> abg 7.45 /52 /98 /37
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:23 PM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-19**] 10:00 PM
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Amiodarone 6. Artificial Tear
   Ointment 7. Bisacodyl
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 9. Dextrose 50% 10.
   Dexamethasone 11. Dexamethasone 12. Docusate Sodium (Liquid)
   13. Erythromycin 14. Fentanyl Citrate 15. Glucagon 16. Heparin Flush
   (10 units/ml) 17. Heparin Flush (100 units/ml)
   18. Heparin 19. Insulin 20. Lansoprazole Oral Disintegrating Tab 21.
   Lactulose 22. LeVETiracetam
   23. Midazolam 24. Polyethylene Glycol 25. Potassium Chloride 26. Senna
   27. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-20**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 59 (54 - 75) bpm
   BP: 120/70(91) {95/55(72) - 144/82(107)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60.7 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,821 mL
                                                                    661 mL
   PO:
             TF:
                                                                    813 mL
                                                                    318 mL
   IVF:
                                                                    799 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    690 mL
   Urine:
                                                                  2,050 mL
                                                                    660 mL
   NG:
                                                                     10 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 15.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/52/95.[**Numeric Identifier 218**]/34/9
   Ve: 5.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   6.9 g/dL
   184 mg/dL
   0.1 mg/dL
   34 mEq/L
   4.1 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   21.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
   WBC
   8.1
   7.5
   8.4
   Hct
   22.9
   22.1
   21.8
   Plt
   192
   178
   177
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   36
   34
   37
   36
   Glucose
   91
   152
   172
   122
   172
   184
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, s/p polymorphic VT.
   #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Decrease PEEP to 10 given low compliance, monitor sats.
   -- patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; family
   wants to speak with oncology and IP for further options although given
   reassurance that no further interventions are likely to help.
   - Had been given stress dose steroids since [**12-17**]- decrease to home dose
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**]. Pt now on amiodarone
   400mg po BID.
   -- Had dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone 400mg [**Hospital1 7**] today (today is day 6)
 plan to
   change dose on [**12-21**]
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   [**Hospital1 7**] lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- f/u oncology recs, although are not following daily
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW consult
   #. Lack of bowel movements: Now improved with erythromycin, felt to be
   ileus or constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen, decrease if multiple stools today
   - Consider po narcan if worsens
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-20**] 05:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: no compressions
   Disposition: readdress with HCP

2193-12-20 11:33:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NO new events
   History obtained from Medical records
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:23 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-20**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2193-12-20**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.5
C (95.9
   HR: 65 (53 - 71) bpm
   BP: 131/73(97) {95/55(72) - 147/82(108)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.8 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,821 mL
                                                                  1,056 mL
   PO:
             TF:
                                                                    813 mL
                                                                    557 mL
   IVF:
                                                                    799 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,590 mL
   Urine:
                                                                  2,050 mL
                                                                  1,560 mL
   NG:
                                                                     10 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                   -534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 31 cmH2O
   Compliance: 16.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/52/95.[**Numeric Identifier 218**]/34/9
   Ve: 5.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.9 g/dL
   177 K/uL
   184 mg/dL
   0.1 mg/dL
   34 mEq/L
   4.1 mEq/L
   9 mg/dL
   107 mEq/L
   144 mEq/L
   21.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2193-12-17**]  02:25 PM
                             [**2193-12-18**]  03:45 AM
                             [**2193-12-18**]  04:35 AM
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
   WBC
   8.1
   7.5
   8.4
   Hct
   22.9
   22.1
   21.8
   Plt
   192
   178
   177
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   36
   34
   37
   36
   Glucose
   91
   152
   172
   122
   172
   184
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   37 yo female with metastatic colon cancer now with persistent hypoxemic
   respiratory failure due to extensive destruction of lung with
   metastatic lesions.  We have had ongoing support at maximal levels an
   no clinical improvement had been effected.  We have re-discussed with
   family and with oncology in detail and do not have additional
   interventions possible.  Have had discussions in regards to CMO status
   in the setting of no expectation of improvement and persistent
   ventilatory status.
   1)VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)-
   -Amiodarone
   -Will continue with telemetry
   2) CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   -Dexamethasone
   -Keppra
   3)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -Albuterol
   -Will wean PEEP further
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-20**] 09:55 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family meeting planned for 2:30 today to
   rediscuss comfort measures only as a pathway of care
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2193-12-21 07:46:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Metastatic colon cancer
   24 Hour Events:
   - have met with health care proxy [**Name (NI) 11937**] who plans to discuss with
   family and plan to come in on Monday for family meeting
   -decreased PEEP from 12 to 8 given interval improvement on CXR lower
   lobes
   -given 1U PRBC for anemia
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Erythromycin - [**2193-12-18**] 05:23 PM
   Infusions:
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-21**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 69 (51 - 69) bpm
   BP: 156/87(116) {101/57(73) - 156/87(116)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.8 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  2,513 mL
                                                                    699 mL
   PO:
             TF:
                                                                  1,178 mL
                                                                    384 mL
   IVF:
                                                                    805 mL
                                                                    255 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,860 mL
                                                                    930 mL
   Urine:
                                                                  2,810 mL
                                                                    900 mL
   NG:
                                                                     50 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -347 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.45/52/92.[**Numeric Identifier 132**]/32/9 @ [**12-20**] 11pm
   Ve: 5.6 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Gen: sedated, does not follow commands, opens eyes spontaneously
   CV: RRR w/o mrg
   Pulm: ventilator-induced breath sounds
   Abd: +BS, abdomen soft without distention or apparent tenderness
   Ext: pitting edema in all 4 extremities, stable from previous
   Labs / Radiology
   173 K/uL
   8.7 g/dL
   151 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   142 mEq/L
   27.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2193-12-18**]  04:35 AM
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
                             [**2193-12-20**]  11:01 PM
                             [**2193-12-21**]  03:44 AM
   WBC
   7.5
   8.4
   9.6
   Hct
   22.1
   21.8
   27.2
   Plt
   178
   177
   173
   Cr
   0.2
   0.2
   0.2
   0.1
   0.2
   TCO2
   36
   34
   37
   36
   37
   Glucose
   172
   122
   172
   184
   151
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   No CXR today
   No new microbiology data
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, now also s/p polymorphic VT.
    #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- Has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Keep PEEP at 8 for now, monitor sats.
   -- Patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; plan
   for meeting on Monday
   -- continue home dose of stress dose steroids on [**12-19**]
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**]. Pt now on amiodarone
   400mg po BID.
   -- Had dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone, will change dose to 400mg daily today as has
   had one week of loading dose of amiodarone, will confirm dose change
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   1XD lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW following
   #. Bowel motility: Now improved with erythromycin, felt to be ileus or
   constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen, consider decrease if necessary
   - Consider po narcan if worsens
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-20**] 11:12 PM 50 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With family, specifically brother [**Name (NI) 11937**]
   [**Telephone/Fax (1) 11614**]
   Code status:  No compressions, otherwise still full code
   Disposition: Family meeting on Monday to assess, for now [**Hospital Unit Name 1**]

2193-12-22 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Changed amiodarone dose to daily
   No events overnight
   This AM, brother thought breathing had changed, HR transiently in 130s
   after suctioning.
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 500 mcg/hour
   Versed
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-12-21**] 08:50 AM
   Heparin Sodium (Prophylaxis) - [**2193-12-21**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-22**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 104 (61 - 130) bpm
   BP: 124/72(91) {95/56(70) - 146/91(112)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,914 mL
                                                                    762 mL
   PO:
             TF:
                                                                    779 mL
                                                                    396 mL
   IVF:
                                                                    775 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                  1,205 mL
   Urine:
                                                                  3,605 mL
                                                                  1,175 mL
   NG:
                                                                     40 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,731 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: ///37/
   Ve: 4.5 L/min
   Physical Examination
   Gen: intubated and sedated, opens eyes to verbal stimuli but does not
   track.  Anisarcic.
   CV: Tachycardic, regular rhythm, no murmurs appreciated
   Pulm: ventilated breathing, anterior exam only
   Abd: soft, mildly distended, +BS, well healed midline surgical scar
   Extem: 3+ edema in all four extremities, 2+ pulses throughout
   Labs / Radiology
   194 K/uL
   9.6 g/dL
   132 mg/dL
   0.2 mg/dL
   37 mEq/L
   4.3 mEq/L
   9 mg/dL
   101 mEq/L
   143 mEq/L
   30.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2193-12-18**]  08:19 PM
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
                             [**2193-12-20**]  11:01 PM
                             [**2193-12-21**]  03:44 AM
                             [**2193-12-22**]  03:42 AM
   WBC
   7.5
   8.4
   9.6
   11.9
   Hct
   22.1
   21.8
   27.2
   30.0
   Plt
   178
   177
   173
   194
   Cr
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   TCO2
   34
   37
   36
   37
   Glucose
   172
   122
   172
   184
   151
   132
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   No Micro data pending
   No new imaging
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, now also s/p polymorphic VT.
    #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- Has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Keep PEEP at 8 for now, monitor sats.
   -- Patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; plan
   for meeting on Monday
   -- continue home dose steroids (changed from stress dose on [**12-19**])
   -- will add methadone for improved patient comfort
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**].
   - -Pt changed to amiodarone 400mg po daily yesterday -> will change
   back to [**Hospital1 7**] today, confirmed with pharmacy that dosing should be [**Hospital1 7**]
   for one month after VT
   -- Had dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone daily
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   1XD lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW following
   #. Bowel motility: Now improved with erythromycin, felt to be ileus or
   constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen, consider decrease if necessary
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-22**] 03:59 AM 50 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: Family, specifically Tefari
   Code status: Full code but compressions not indicated
   Disposition: [**Hospital Unit Name 1**], planned family mtg on monday

2193-12-23 07:36:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - Changed amiodarone back to [**Hospital1 7**] at request of pharmacy
   - FM with Dr. [**Last Name (STitle) **], no changes - see note in Metavision for info
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 500 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-12-22**] 08:46 AM
   Heparin Sodium (Prophylaxis) - [**2193-12-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-23**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 114 (89 - 128) bpm
   BP: 119/74(91) {89/54(66) - 137/82(102)} mmHg
   RR: 17 (9 - 20) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  2,644 mL
                                                                    797 mL
   PO:
             TF:
                                                                  1,262 mL
                                                                    377 mL
   IVF:
                                                                    772 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                  1,015 mL
   Urine:
                                                                  3,545 mL
                                                                    985 mL
   NG:
                                                                     40 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -941 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 93%
   ABG: ///40/
   Ve: 4.5 L/min
   Physical Examination
   Gen: intubated and sedated, opens eyes to verbal stimuli but does not
   track.  Anasarcic.
   CV: Tachycardic, regular rhythm, no murmurs appreciated
   Pulm: ventilated breathing, anterior exam only
   Abd: soft, mildly distended, +BS, well healed midline surgical scar
   Extem: 3+ edema in all four extremities, 2+ pulses throughout
   Labs / Radiology
   171 K/uL
   9.5 g/dL
   146 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.1 mEq/L
   9 mg/dL
   98 mEq/L
   141 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
                             [**2193-12-20**]  11:01 PM
                             [**2193-12-21**]  03:44 AM
                             [**2193-12-22**]  03:42 AM
                             [**2193-12-23**]  05:35 AM
   WBC
   7.5
   8.4
   9.6
   11.9
   13.4
   Hct
   22.1
   21.8
   27.2
   30.0
   29.4
   Plt
   178
   177
   173
   194
   171
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.3
   TCO2
   34
   37
   36
   37
   Glucose
   122
   172
   184
   151
   132
   146
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   No micro data
   No CXR in OMR
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, now also s/p polymorphic VT.
    #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- Has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Keep PEEP at 8 for now, monitor sats.
   -- Patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; plan
   for meeting on Monday
   -- continue home dose steroids (changed from stress dose on [**12-19**])
   -- will add methadone for improved patient comfort
   #. Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**].
   - -Pt changed to amiodarone 400mg po daily yesterday -> will change
   back to [**Hospital1 7**] today, confirmed with pharmacy that dosing should be [**Hospital1 7**]
   for one month after VT
   -- Had dc
ed Reglan and Zofran
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Continue amiodarone daily
   -- Continue monitoring and replete lytes PRN for K > 4, Mg >2, check
   1XD lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW following
   #. Bowel motility: Now improved with erythromycin, felt to be ileus or
   constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen, consider decrease if necessary
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2193-12-22**] 03:59 AM 50 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: Family, specifically Tefari
   Code status: Full code but compressions not indicated
   Disposition: [**Hospital Unit Name 1**], planned family meeting planned today

2193-12-24 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -family meeting: brother said OK to give all medications for comfort
   but keep on ventilator, no labs, no x-rays, CMO excent vent which will
   be d/c'd on wednesday once family leaves for [**Country **] (note: patient's
   mother is unaware of this plan and things still receiving aggressive
   care)
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-24**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 96 (74 - 110) bpm
   BP: 142/77(101) {89/49(63) - 142/77(101)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.2 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  2,119 mL
                                                                    364 mL
   PO:
             TF:
                                                                    748 mL
                                                                     87 mL
   IVF:
                                                                    971 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                    520 mL
   Urine:
                                                                  3,985 mL
                                                                    520 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,896 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 92%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   9.5 g/dL
   146 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.1 mEq/L
   9 mg/dL
   98 mEq/L
   141 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
                             [**2193-12-20**]  11:01 PM
                             [**2193-12-21**]  03:44 AM
                             [**2193-12-22**]  03:42 AM
                             [**2193-12-23**]  05:35 AM
   WBC
   7.5
   8.4
   9.6
   11.9
   13.4
   Hct
   22.1
   21.8
   27.2
   30.0
   29.4
   Plt
   178
   177
   173
   194
   171
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.3
   TCO2
   34
   37
   36
   37
   Glucose
   122
   172
   184
   151
   132
   146
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, now also s/p polymorphic VT.
    #. Respiratory failure
 Has persistent respiratory failure and unable
   to be weaned from vent as cannot tolerate pressure support at all.  Has
   persistently low compliance due to metastatic disease causing LUL
   collapse.
   -- Has completed 10 day course of antibiotics, have stopped all Abx as
   of [**12-14**]
   -- Keep PEEP at 8 for now, monitor sats.
   -- Patient could not tolerate pressure support at all, will likely not
   be able to be extubated
   -- ongoing discussion with the family re: trach/ goals of care; plan
   for meeting on Monday
   -- continue home dose steroids (changed from stress dose on [**12-19**])
   -- will add methadone for improved patient comfort
   #. Leukocytosis: Patient at high risk for post-obstructive pneumonia vs
   VAP.  Will defer full workup until after family meeting today
   -- Consider CXR and urinalysis and culture
   #.  Rhythm (ventricular tachycardia, sinus tachycardia, bradycardia)
   Has had no further episodes of VT since [**12-14**].
   -- Amiodarone 400mg po BID for one month, changed on [**2193-12-22**]
   -- TTE showed no evidence of wall motion abnormalities and normal LVEF
   -- Daily lytes
   -- 12 lead EKG if  arrhythmias happen again
    #. Stage 4 metastatic colon CA -
   -- continue keppra for seizure prophylaxis in setting of brain mets
   -- onc SW following
   #. Bowel motility: Now improved with erythromycin, felt to be ileus or
   constipation due to heavy sedation, less likely obstruction.
   - continue PO erythromycin to encourage motility
   - Continue aggressive bowel regimen, consider decrease if necessary
   ICU Care
   Nutrition: Fibersource HN
   Glycemic Control:  Insulin SS
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: None
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (CMO but continue intubation)
   Disposition: [**Hospital Unit Name 1**]

2193-12-25 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
F - [**2193-12-25**] 12:00 AM
   - Had frank blood suctioned out of ETT
   - Persistently with O2 sat of 88-90% got tachycardic to the 120's
   Allergies:
   Compazine (Oral) (Prochlorperazine Maleate)
   dystonic;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 20 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Fentanyl - [**2193-12-24**] 10:00 PM
   Midazolam (Versed) - [**2193-12-24**] 10:00 PM
   Other medications:
   Acetaminophen 4. Artificial Tear Ointment 5. Bisacodyl 6. Chlorhexidine
   Gluconate 0.12% Oral Rinse
   7. Docusate Sodium (Liquid) 8. Fentanyl Citrate 9. Heparin Flush (10
   units/ml) 10. Heparin Flush (100 units/ml)
   11. Lactulose 12. Methadone 13. Midazolam 14. Polyethylene Glycol 15.
   Senna 16. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-25**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.2
   HR: 126 (97 - 126) bpm
   BP: 131/81(99) {78/52(63) - 149/93(114)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 47 kg
   Height: 64 Inch
             Total In:
                                                                  1,755 mL
                                                                    486 mL
   PO:
             TF:
                                                                    730 mL
                                                                    208 mL
   IVF:
                                                                    975 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  3,660 mL
                                                                  1,230 mL
   Urine:
                                                                  3,660 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 88%
   ABG: ////
   Ve: 4.7 L/min
   Physical Examination
   Gen: does not follow commands, arousable to pushing on abd only
   CV: tachycardic, no audible murmur
   Pulm: rhonchorus b/s b/l
   Abd: +BS, soft, mildly distending
   Ext: edema of hands and feet b/l
   Labs / Radiology
   171 K/uL
   9.5 g/dL
   146 mg/dL
   0.3 mg/dL
   40 mEq/L
   4.1 mEq/L
   9 mg/dL
   98 mEq/L
   141 mEq/L
   29.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2193-12-19**]  03:46 AM
                             [**2193-12-19**]  08:42 AM
                             [**2193-12-19**]  05:00 PM
                             [**2193-12-19**]  05:46 PM
                             [**2193-12-19**]  09:42 PM
                             [**2193-12-20**]  04:11 AM
                             [**2193-12-20**]  11:01 PM
                             [**2193-12-21**]  03:44 AM
                             [**2193-12-22**]  03:42 AM
                             [**2193-12-23**]  05:35 AM
   WBC
   7.5
   8.4
   9.6
   11.9
   13.4
   Hct
   22.1
   21.8
   27.2
   30.0
   29.4
   Plt
   178
   177
   173
   194
   171
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.3
   TCO2
   34
   37
   36
   37
   Glucose
   122
   172
   184
   151
   132
   146
   Other labs: PT / PTT / INR:13.5/32.8/1.2, CK / CKMB /
   Troponin-T:40/2/<0.01, Differential-Neuts:93.8 %, Lymph:2.7 %, Mono:3.2
   %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   37F with widely metastatic colon CA to lungs and brain, who presented
   with respiratory distress, now also s/p polymorphic VT.
    #. Metastatic colon cancer with complicating respiratory failure; pt
   now CMO.  Only medications for comfort and sedation.  No blood draws or
   X-Rays.  Pt. was in mild discomfort yesterday which resolved with
   morphine
   - decision by HCP was to withdraw care today without sharing
   information with other family members.  [**Name (NI) 133**] turn down TV, oxygen and
   RR on ventilator
   - add morphine prn for comfort
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-12-25**] 01:14 AM 29.[**Telephone/Fax (3) 12016**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-4**] 02:27 PM
   Arterial Line - [**2193-12-4**] 10:05 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:
   Code status: CMO except for ventilator
   Disposition: d/w HCP today